2192-03-27 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2192-3-26**] 11:18 PM
 MULTI LUMEN - START [**2192-3-27**] 04:24 AM
 ARTERIAL LINE - START [**2192-3-27**] 04:31 AM
   - mildly hypotensive to SBP 85-90, bolused 3 L NS
   - repeat ABG deteriorated to 7.15/80/56 on FM-->intubated
   - very difficult to ventilate, increasing RR and TV up to 450(now @
   ~9cc/kg/min), oxygenating well
   - tried for 2 hours to place a-line, patient more hypotensive with
   propofol-->changed to fent/midaz, IVF wide open x 6L more
   - still hypotensive with MAPs 45-50, UOP holding steady @
   ~50cc/h-->started peripheral dopamine, placed CVL.  CVP 13.
   - changed dopamine to levophed via CVL.  FYI RIJ is superior SVC vs
   brachiocephalic, ok for pressors per pharmacy.
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2192-3-26**] 05:51 PM
   Cefipime - [**2192-3-26**] 08:30 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2192-3-26**] 11:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-3-27**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.4
C (97.6
   HR: 72 (72 - 99) bpm
   BP: 102/58(74) {98/50(66) - 108/58(74)} mmHg
   RR: 24 (0 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
    CVP: 14 (14 - 14)mmHg
   Total In:
                                                                  3,316 mL
                                                                  5,232 mL
   PO:
   TF:
   IVF:
                                                                  3,316 mL
                                                                  5,232 mL
   Blood products:
   Total out:
                                                                    120 mL
                                                                    355 mL
   Urine:
                                                                    120 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,196 mL
                                                                  4,877 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (350 - 450) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 80%
   RSBI Deferred: FiO2 > 60%
   PIP: 37 cmH2O
   Plateau: 28 cmH2O
   Compliance: 25.7 cmH2O/mL
   SpO2: 94%
   ABG: 7.21/57/75/21/-5
   Ve: 10.1 L/min
   PaO2 / FiO2: 94
   Physical Examination
   VS:  T 97.6, HR 99, BP 96/50, O2 97% on 50% FM
   GEN: moderate respiratory distress, speaking in 3 word phrases, pursed
   lipped breathing, + accessory muscle use
   SKIN: No rashes or skin changes noted
   HEENT:JVP not elevated
   CHEST:  very poor air movement, expiratory wheezes diffusely
   CARDIAC: difficult to auscultate under breath sounds, distant, regular,
   no murmurs audible
   ABDOMEN: scar R of umbilicus well-healed, obese, soft, nontender
   EXTREMITIES: trace bilaterally pitting edema
   NEUROLOGIC: Alert and appropriate. CN II-XII grossly intact.
   Labs / Radiology
   319 K/uL
   10.3 g/dL
   174 mg/dL
   1.4 mg/dL
   21 mEq/L
   4.7 mEq/L
   50 mg/dL
   113 mEq/L
   146 mEq/L
   34.1 %
   59.7 K/uL
        [image002.jpg]
                             [**2192-3-26**]  06:52 PM
                             [**2192-3-26**]  10:50 PM
                             [**2192-3-27**]  12:54 AM
                             [**2192-3-27**]  02:05 AM
                             [**2192-3-27**]  02:20 AM
                             [**2192-3-27**]  04:36 AM
                             [**2192-3-27**]  06:37 AM
   WBC
   59.7
   Hct
   34.1
   Plt
   319
   Cr
   1.4
   TCO2
   29
   29
   27
   38
   24
   24
   Glucose
   174
   Other labs: PT / PTT / INR:11.6/27.4/1.0, Differential-Neuts:92.0 %,
   Band:5.0 %, Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.4 mmol/L,
   Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Sputum gram stain: GPC in pairs
   Legionella urinary antigen:  negative
   Blood cx [**3-26**]:  NGTD
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   A 67 yo woman with a history of very severe COPD on home O2 presents
   with pneumonia and COPD exacerbation requiring MICU admission.
   .
   #  Pneumonia:  Multilobar infiltrates on CXR.  Labs with significant
   leukocytosis and L shift, likely indicative of bacterial infection.
   Afebrile currently, although report of "chills" at home.  Current SBP
   95-105 is likely low for patient (SBP 120-150 in clinic notes)  and may
   be a signal of impending sepsis.  Regarding the pneumonia itself, given
   history of idiopathic RUL collapse in [**5-4**], it is possible that she
   has some sort of endobronchial lesion (? malignancy given smoking hx)
   contributing.  In any case, because of her very severe baseline
   obstructive disease, she is in a very tenuous respiratory place right
   now.
   - vancomycin, cefepime, and azithromycin for broad bacterial coverage
   including atypical pathogens.  (Lives in [**Hospital3 22**] facility,
   chronic respiratory disease so will treat as if HCAP.)
   - blood cx
   - sputum cx
   - urinary legionella antigen
   - IVF - will give 1 L NS bolus now and continuing with goal MAP >65,
   goal uop >35 cc/h.  Previous echo with NL EF.
   - repeat CXR in AM (will get PA/Lat for better visualization)
   - serial ABG (will not repeat overnight unless O2 Saturation falls)
   - trend WBC (will be complicated by steroids)
   - discuss with Dr. [**Last Name (STitle) **] whether CT and/or bronchoscopy may be
   indicated for better visualization of possible endobronchial lesion
   that may be contributing to recurrent pathology in that lobe
   .
   #  COPD:  very severe COPD with FEV1 <30% predicted.  No history
   intubation.  Currently very tachypneic with poor air movement.
   - serial ABG as above
   - methylprednisolone 40 mg q8h (will hold off on 125mg given
   concominant infecitious picture)
   - fluticasone inh
   - albuterol nebs q1h for now, decrease to q6h as tolerated
   - ipratropium nebs q6h
   - may require intubation if tires
   .
   #  hx hypertension:  borderline hypotensive currently
   - hold all antihypertensives
   .
   # kidney injury:  unclear whether acute or chronic (no baseline labs,
   but no recorded history of renal insufficiency.)  She may be prerenal
   in the setting of lower than normal perfusion pressure
   -  check urine lytes
   -  trend creatinine
   -  avoid nephrotoxins
   .
   .
   # FEN: IVF boluses / replete lytes prn / npo for now
   # PPX: PPI per home regimen, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE:  Full, discussed with patient
   # CONTACT:  with patient.  Emergency contact is sister, [**Name (NI) 3137**]
   [**Name (NI) 4537**], patient does not know # and none in chart
   # ICU CONSENT: signed, in chart
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 3031**]
   [x] ICU

2192-03-27 09:45:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67 yo w/ prior smoker w/ severe COPD on home O2 admitted w/ resp
   failure due to pneumonia and COPD exacerbation
   24 Hour Events:
   Intubated for progressive failure overnight, as per admission notes.
   Started on norepi gtt for fluid-unresponsive hypotension.
   Persistent autoPEEP of 9 noted.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Last dose of Antibiotics:
   Cefipime - [**2192-3-26**] 08:30 PM
   Vancomycin - [**2192-3-27**] 07:48 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2192-3-26**] 11:55 PM
   Other medications:
   Serevent [**Hospital1 **] , SoluMedrol 40 q8, Heparin sc tid, Colace, azithromycin
   qd, Atrovent q6, Albuterol q2, famotidine, Peridex,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-3-27**] 09:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98
   HR: 74 (72 - 99) bpm
   BP: 107/61(77) {98/50(66) - 108/61(77)} mmHg
   RR: 24 (0 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
   CVP: 14 (14 - 14)mmHg
   Total In:
                                                                  3,316 mL
                                                                  5,560 mL
   PO:
   TF:
   IVF:
                                                                  3,316 mL
                                                                  5,500 mL
   Blood products:
   Total out:
                                                                    120 mL
                                                                    495 mL
   Urine:
                                                                    120 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,196 mL
                                                                  5,065 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (350 - 450) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 80%
   RSBI Deferred: FiO2 > 60%
   PIP: 32 cmH2O
   Plateau: 29 cmH2O
   Compliance: 22.5 cmH2O/mL
   SpO2: 95%
   ABG: 7.21/57/75/21/-5
   Ve: 11.3 L/min
   PaO2 / FiO2: 94
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : left, Crackles : right
   laterally, Rhonchorous: on right)
   Abdominal: Soft, Non-tender, Bowel sounds present, reducible ventral
   hernia present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Movement: Not assessed, Sedated, Tone: Normal
   Labs / Radiology
   10.3 g/dL
   319 K/uL
   174 mg/dL
   1.4 mg/dL
   21 mEq/L
   4.7 mEq/L
   50 mg/dL
   113 mEq/L
   146 mEq/L
   34.1 %
   59.7 K/uL
        [image002.jpg]
                             [**2192-3-26**]  06:52 PM
                             [**2192-3-26**]  10:50 PM
                             [**2192-3-27**]  12:54 AM
                             [**2192-3-27**]  02:05 AM
                             [**2192-3-27**]  02:20 AM
                             [**2192-3-27**]  04:36 AM
                             [**2192-3-27**]  06:37 AM
   WBC
   59.7
   Hct
   34.1
   Plt
   319
   Cr
   1.4
   TCO2
   29
   29
   27
   38
   24
   24
   Glucose
   174
   Other labs: PT / PTT / INR:11.6/27.4/1.0, Differential-Neuts:92.0 %,
   Band:5.0 %, Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.4 mmol/L,
   Ca++:7.4 mg/dL, Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Imaging: CXR- panlobar R-sided opacification, LLL atelectasis vs
   infiltrate
   Microbiology: Sputum- GPC in pairs
   Assessment and Plan
   67 yo w/ prior smoker w/ severe COPD on home O2 admitted w/ resp
   failure due to pneumonia and COPD exacerbation.
   1. Resp failure- severe COPD exac due to pneumonia. Prior partial RUL
   collapse from [**5-4**] will need further evaluation down the road and might
   have predisposed to current pna
   -will have asymmetric lung physiology as L lung is emphysematous and R
   lung is infected, so will need to be cautious of L lung volu- and
   [**Doctor Last Name **]-trauma
   -stay as close to ARDSnet ventilation as acidemia allows, currently at
   about 8-9cc/kg for Vt
   -wean FiO2 to maintain PaO2 > 60
   -tolerate autoPEEP for now as Pplat < 30 and hemodyn stable
   -vanco + cefepime + azithro (change to IV) for now
   -f/u GPCs in sputum, other cx data
   -tx COPD exac w/ Solu-Medrol --> incr to 125 q8 and scheduled nebs
   -will need CT scan at some point to re-evaluate
   2.  Shock- likely multifactorial, sepsis vs meds
   -recent echo [**10-4**] w/ nl echo
   -CVP goal, MAP goals reached; wean norepi gtt as tolerated
   -might become more conservative w/ fluids (will use LR given high Cl)
   given high FiO2 req't and little gross pulse pressure variation or CVP
   variation
   3. ARF- supportive mgmt, due to #2 as above
   ICU Care
   Nutrition:
   Comments: start tube feeds today
   Glycemic Control:  Insulin infusion
   Lines:
   20 Gauge - [**2192-3-26**] 05:47 PM
   18 Gauge - [**2192-3-27**] 04:00 AM
   Multi Lumen - [**2192-3-27**] 04:24 AM
   Arterial Line - [**2192-3-27**] 04:31 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 4052**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize.
   67 yo women with COPD, admitted with respiratory failure.  CXR with
   multifocal PNA including in area of RUL where he has chronic collapse.
   Was intubated in ICU, required Levophed which has weaned down with
   aggressive IVF.  Still requiring hi FiO2 (0.65) but has come down
   somewhat.
   Exam notable for coarse rales throughout right lung.  Diminished BS on
   left.
   WBC 60K
   7.26/49/68
   A/P:
   Respiratory failure:  ph improved.  Continue current vent setting.
   Severe PNA is cause of hypoxemia and respiratory failure on background
   of severe COPD.  Continue steroids and nebs.
   Sputum with GPCs on gram stain so continue vanco.
   Septic shock:  still requiring pressors but have weaned down.
   Acute renal failure: likely due to sepsis/pre-renal.  Unclear baseline.
   CC45 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) **], MD
   on:[**2192-3-27**] 12:18 ------

2192-03-28 07:08:00 Physician Resident Progress Note
Chief Complaint: intubated
   24 Hour Events:
   - norepi weaned off; MAP drifted to 50s; norepi restarted at 0.03
   - required PEEP 10 for adequate oxygenation
   Allergies:
   Last dose of Antibiotics:
   Azithromycin - [**2192-3-27**] 10:37 AM
   Cefipime - [**2192-3-27**] 07:30 PM
   Vancomycin - [**2192-3-27**] 08:00 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 125 mcg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-3-27**] 11:52 AM
   Heparin Sodium (Prophylaxis) - [**2192-3-28**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-3-28**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.6
C (97.9
   HR: 73 (71 - 84) bpm
   BP: 108/60(77) {89/47(61) - 112/64(79)} mmHg
   RR: 24 (9 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
    CVP: 20 (11 - 20)mmHg
   Total In:
                                                                  6,768 mL
                                                                    425 mL
   PO:
   TF:
                                                                    208 mL
                                                                    178 mL
   IVF:
                                                                  6,391 mL
                                                                    147 mL
   Blood products:
   Total out:
                                                                  1,520 mL
                                                                    410 mL
   Urine:
                                                                  1,520 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,248 mL
                                                                     16 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 28 cmH2O
   Plateau: 23 cmH2O
   Compliance: 31.9 cmH2O/mL
   SpO2: 93%
   ABG: 7.29/51/75/23/-2
   Ve: 10.4 L/min
   PaO2 / FiO2: 125
   Physical Examination
   GEN: intubated
   HEENT:JVP not elevated
   CHEST:  very poor air movement, expiratory wheezes diffusely
   CARDIAC: difficult to auscultate under breath sounds, distant, regular,
   no murmurs audible
   ABDOMEN: scar R of umbilicus well-healed, obese, soft, nontender
   EXTREMITIES: trace bilaterally pitting edema
   Labs / Radiology
   375 K/uL
   9.6 g/dL
   161 mg/dL
   1.0 mg/dL
   23 mEq/L
   5.0 mEq/L
   41 mg/dL
   115 mEq/L
   145 mEq/L
   30.5 %
   35.6 K/uL
        [image002.jpg]
                             [**2192-3-27**]  06:37 AM
                             [**2192-3-27**]  10:01 AM
                             [**2192-3-27**]  11:12 AM
                             [**2192-3-27**]  01:11 PM
                             [**2192-3-27**]  03:45 PM
                             [**2192-3-27**]  04:04 PM
                             [**2192-3-28**]  03:06 AM
                             [**2192-3-28**]  03:14 AM
                             [**2192-3-28**]  05:00 AM
                             [**2192-3-28**]  05:57 AM
   WBC
   42.2
   35.6
   Hct
   31.7
   30.5
   Plt
   375
   Cr
   1.1
   1.0
   TCO2
   24
   24
   23
   25
   25
   25
   26
   26
   Glucose
   139
   161
   Other labs: PT / PTT / INR:11.6/27.4/1.0, Differential-Neuts:92.0 %,
   Band:5.0 %, Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L,
   Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   A 67 yo woman with a history of very severe COPD on home O2 presents
   with pneumonia and COPD exacerbation requiring MICU admission.
   #  Respiratory failure: Multilobar Pneumonia & COPD. Possible that she
   has some sort of endobronchial lesion (? malignancy given smoking hx)
   contributing.  In any case, because of her very severe baseline
   obstructive disease, she is in a very tenuous respiratory place right
   now.  GPCs in pairs, Legionella (-)
   - vancomycin, cefepime, and azithromycin for broad bacterial coverage
   including atypical pathogens.  (Lives in [**Hospital3 22**] facility,
   chronic respiratory disease so will treat as if HCAP.)
   - F/U blood cx
   - ABG on current settings, tolerate large tidal volumes
   - Plateaus <30 as most ventilation is going to the L lung, maintain
   ARDSnet ventilation as pH tolerates
   - methylprednisolone to 125 mg q8h
   - fluticasone inh
   - albuterol nebs q1h for now, decrease to q6h as tolerated
   - ipratropium nebs q6h
   #. Shock: Septic from PNA, leukocytosis, requiring pressors but is
   fluid responsive.  No recent abx exposure.
   - Abx as above
   - Norepi as needed to keep MAP >65, allow for sedation
   - trend WBC (will be complicated by steroids)
   - Send C. Diff
   - Measure SvO2 to r/o cardiogenic shock
   # kidney injury:  Unclear if this is acute or chronic, but did improve
   with signficant fluid hydration.
   -  F/U urine lytes
   -  trend creatinine
   #  hx hypertension:  hypotensive on pressors
   - hold all antihypertensives
   # FEN: IVF boluses / replete lytes prn / tube feeds
   # PPX: PPI per home regimen, heparin SQ, bowel regimen, VAP Care
   # ACCESS: RIJ, L radial Art line, PIV
   # CODE:  Full, discussed with patient
   # CONTACT:  with patient.  Emergency contact is sister, [**Name (NI) 3137**]
   [**Name (NI) 4537**], patient does not know # and none in chart; will consult social
   work
   # ICU CONSENT: signed, in chart
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 3031**]
   [x] ICU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2192-3-27**] 03:42 PM 25 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2192-3-26**] 05:47 PM
   18 Gauge - [**2192-3-27**] 04:00 AM
   Multi Lumen - [**2192-3-27**] 04:24 AM
   Arterial Line - [**2192-3-27**] 04:31 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-03-28 09:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67 yo w/ prior smoker w/ severe COPD on home O2 admitted w/ resp
   failure due to pneumonia and COPD exacerbation.
   24 Hour Events:
   persistent norepi req't for MAP <60.
   Allergies:
   Last dose of Antibiotics:
   Azithromycin - [**2192-3-27**] 10:37 AM
   Cefipime - [**2192-3-27**] 07:30 PM
   Vancomycin - [**2192-3-28**] 08:14 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 125 mcg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-3-27**] 11:52 AM
   Heparin Sodium (Prophylaxis) - [**2192-3-28**] 08:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-3-28**] 09:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.6
C (97.8
   HR: 83 (71 - 84) bpm
   BP: 106/55(72) {89/47(61) - 112/64(79)} mmHg
   RR: 23 (9 - 25) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
   CVP: 2 (2 - 20)mmHg
   Total In:
                                                                  6,768 mL
                                                                    846 mL
   PO:
   TF:
                                                                    208 mL
                                                                    257 mL
   IVF:
                                                                  6,391 mL
                                                                    389 mL
   Blood products:
   Total out:
                                                                  1,520 mL
                                                                    560 mL
   Urine:
                                                                  1,520 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,248 mL
                                                                    286 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 31 cmH2O
   Plateau: 25 cmH2O
   Compliance: 28 cmH2O/mL
   SpO2: 92%
   ABG: 7.28/52/68/23/-2
   Ve: 10.3 L/min
   PaO2 / FiO2: 113
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Obese, reducible R ventral
   hernia
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed,
   Sedated, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   375 K/uL
   161 mg/dL
   1.0 mg/dL
   23 mEq/L
   5.0 mEq/L
   41 mg/dL
   115 mEq/L
   145 mEq/L
   30.5 %
   35.6 K/uL
        [image002.jpg]
                             [**2192-3-27**]  10:01 AM
                             [**2192-3-27**]  11:12 AM
                             [**2192-3-27**]  01:11 PM
                             [**2192-3-27**]  03:45 PM
                             [**2192-3-27**]  04:04 PM
                             [**2192-3-28**]  03:06 AM
                             [**2192-3-28**]  03:14 AM
                             [**2192-3-28**]  05:00 AM
                             [**2192-3-28**]  05:57 AM
                             [**2192-3-28**]  08:37 AM
   WBC
   42.2
   35.6
   Hct
   31.7
   30.5
   Plt
   375
   Cr
   1.1
   1.0
   TCO2
   24
   23
   25
   25
   25
   26
   26
   25
   Glucose
   139
   161
   Other labs: PT / PTT / INR:11.6/27.4/1.0, Differential-Neuts:92.0 %,
   Band:5.0 %, Lymph:2.0 %, Mono:0.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L,
   Ca++:7.8 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR- ETT approx 6cm above carina; R-sided opacification, L
   hyperinflation; B effusions
   Microbiology: Sputum- GPCs
   Remainder of cx neg or pending
   Assessment and Plan
   67 yo w/ prior smoker w/ severe COPD on home O2 admitted w/ resp
   failure due to pneumonia and COPD exacerbation.
   1. Resp failure- severe COPD exac due to pneumonia. Prior partial RUL
   collapse from [**5-4**] will need further evaluation down the road and might
   have predisposed to current pna
   -will have asymmetric lung physiology as L lung is emphysematous and R
   lung is infected, so will need to be cautious of L lung volu- and
   [**Doctor Last Name **]-trauma
   -wean FiO2 to maintain PaO2 > 60
   -tolerate autoPEEP for now as Pplat < 30 and hemodyn stable
   -assess spont breathing tolerance today but caution on weaning
   -will lighten sedation and assess breathing
   -vanco + cefepime + azithro (change to IV) for now --> narrow tommorrow
   based on cx data
   -tx COPD exac w/ Solu-Medrol --> cont 125 q8 today and scheduled nebs
   -will need CT scan at some point to re-evaluate, poss bronch
   2.  Shock- likely multifactorial, sepsis vs meds
   -recent echo [**10-4**] w/ nl EF
   -CVP goal, MAP goals reached; wean norepi gtt as tolerated
   -might become more conservative w/ fluids (will use LR given high Cl)
   given high FiO2 req't and little gross pulse pressure variation or CVP
   variation
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2192-3-27**] 03:42 PM 35 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2192-3-27**] 04:00 AM
   Multi Lumen - [**2192-3-27**] 04:24 AM
   Arterial Line - [**2192-3-27**] 04:31 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: will touch base w/ pt's sister today
   [**Name2 (NI) 156**] status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 4052**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize.
   67 yo women with severe COPD, admitted with respiratory failure and
   multifocal PNA.   Slow improved, but has weaned off pressors.  Still
   with significant oxygen requirement.  Acting like he has a shunt may be
   intrapulmonary through lung or intracardiac.  Had echo on [**10-4**] with
   bubble study that showed no shunt.
   Exam:  patient sedated, unresponsive.  Lung exam with coarse rales
   throughout right lung.
   A/P
   Respiratory failure:  Slow improvement, WBC coming down.  Given
   severity of PNA and significant shunt, likely will have continued slow
   recovery.
   Septic shock:  improved.
   Acute renal failure:  improved.
   CC 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) **], MD
   on:[**2192-3-28**] 12:50 ------

2192-03-29 09:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2192-3-29**] 05:25 AM
   - BP improved, able to give 20+20 Lasix on night shift, significant UOP
   - ~4:30am tube feeds found in ET tube, unclear source, worsening
   oxygenation
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2192-3-28**] 08:00 PM
   Cefipime - [**2192-3-28**] 10:00 PM
   Azithromycin - [**2192-3-29**] 07:35 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2192-3-28**] 09:25 PM
   Heparin Sodium (Prophylaxis) - [**2192-3-29**] 07:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-3-29**] 09:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.7
   HR: 70 (65 - 88) bpm
   BP: 98/73(84) {85/45(58) - 129/75(93)} mmHg
   RR: 24 (18 - 25) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
    CVP: 1 (1 - 3)mmHg
   Total In:
                                                                  2,558 mL
                                                                    691 mL
   PO:
   TF:
                                                                  1,000 mL
                                                                    243 mL
   IVF:
                                                                  1,147 mL
                                                                    398 mL
   Blood products:
   Total out:
                                                                  2,350 mL
                                                                  1,635 mL
   Urine:
                                                                  2,350 mL
                                                                  1,635 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    208 mL
                                                                   -944 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 410 (361 - 449) mL
   PS : 10 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   SpO2: 92%
   ABG: 7.37/49/66/25/1
   Ve: 11.1 L/min
   PaO2 / FiO2: 94
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   435 K/uL
   9.6 g/dL
   149 mg/dL
   0.9 mg/dL
   25 mEq/L
   5.0 mEq/L
   49 mg/dL
   114 mEq/L
   149 mEq/L
   30.5 %
   27.2 K/uL
        [image002.jpg]
                             [**2192-3-28**]  03:14 AM
                             [**2192-3-28**]  05:00 AM
                             [**2192-3-28**]  05:57 AM
                             [**2192-3-28**]  08:37 AM
                             [**2192-3-28**]  10:26 AM
                             [**2192-3-29**]  03:58 AM
                             [**2192-3-29**]  04:27 AM
                             [**2192-3-29**]  04:58 AM
                             [**2192-3-29**]  06:22 AM
                             [**2192-3-29**]  06:25 AM
   WBC
   27.2
   Hct
   30.5
   Plt
   435
   Cr
   1.1
   0.9
   TCO2
   25
   26
   26
   25
   25
   31
   28
   29
   Glucose
   140
   149
   Other labs: PT / PTT / INR:12.5/23.7/1.1, ALT / AST:29/13, Alk Phos / T
   Bili:103/0.2, Differential-Neuts:92.0 %, Band:5.0 %, Lymph:2.0 %,
   Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL,
   Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, CHRONIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   A 67 yo woman with a history of very severe COPD on home O2 presents
   with pneumonia and COPD exacerbation requiring MICU admission.
   #  Respiratory failure: Multilobar Pneumonia & COPD. Possible that she
   has some sort of endobronchial lesion (? malignancy given smoking hx)
   contributing.  In any case, because of her very severe baseline
   obstructive disease, she remains a very tenuous respiratory place right
   now.  She now requires PEEP of 10 for adequate O2.  CXR unchanged. GPCs
   in pairs, Legionella (-)
   -
   - F/U blood cx
   - methylprednisolone to 125 mg q8h
   - fluticasone inh
   - albuterol nebs ,decrease to q4h
   - ipratropium nebs q6h
   -continue vent; trial of PSV
   - try to diurese if pressors are weaned
   .
   # PNA:  GPCs in pairs, Legionella (-) in sputum, other cx negative.
   - continue vancomycin, cefepime, and azithromycin for broad bacterial
   coverage including atypical pathogens.
   - redose abx renally per pharmacy
   - plan to reconsider abx tomorrow when sputum speciation returns
   - consider bronch prior to extubation if stabilizes tomorrow
   #. Shock:  Pressor requirement lessening.  Septic from PNA,
   leukocytosis, requiring pressors but is fluid responsive.  No recent
   abx exposure.
   - Abx as above
   - Norepi as needed to keep MAP >60, allow for sedation
   - LOS 6 L positive; plan to avoid excessive IVF unless UOP falls (and
   diurese if off pressors)
   # kidney injury:  improved with signficant fluid hydration.
   -  F/U urine lytes
   -  trend creatinine
   #  hx hypertension:  hypotensive on pressors
   - hold all antihypertensives
   # FEN: IVF boluses / replete lytes prn / tube feeds
   # PPX: PPI per home regimen, heparin SQ, bowel regimen, VAP Care
   # ACCESS: RIJ, L radial Art line, PIV x 1
   # CODE:  Full, discussed with patient
   # CONTACT:  with patient.  Emergency contact is sister, [**Name (NI) 3137**]
   [**Name (NI) 4537**], patient does not know #, SW is working on reaching family
   - d/w SW if family has been contact[**Name (NI) **]
   # ICU CONSENT: signed, in chart
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 3031**]
   [x] ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-3-27**] 04:24 AM
   Arterial Line - [**2192-3-27**] 04:31 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-03-29 10:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67 yo w/ prior smoker w/ severe COPD on home O2 admitted w/ resp
   failure due to pneumonia and COPD exacerbation.
   24 Hour Events:
   weaned off norepi yest am. hypoxemic distress yesterday afternoon. tube
   feed-like material suctioned from ETT. Vent support was increased.
   Diuresed overnight.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2192-3-28**] 08:00 PM
   Cefipime - [**2192-3-28**] 10:00 PM
   Azithromycin - [**2192-3-29**] 07:35 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2192-3-28**] 09:25 PM
   Heparin Sodium (Prophylaxis) - [**2192-3-29**] 07:31 AM
   Other medications:
   Heparin sc, Atrovent MDI, Protonix, Solu-Medrol 125 q8, azithro, RISS,
   Peridex, Cefepime, vanco
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-3-29**] 10:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.7
   HR: 70 (65 - 88) bpm
   BP: 98/73(84) {85/45(58) - 129/75(93)} mmHg
   RR: 24 (18 - 25) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
   CVP: 1 (1 - 3)mmHg
   Total In:
                                                                  2,558 mL
                                                                    691 mL
   PO:
   TF:
                                                                  1,000 mL
                                                                    243 mL
   IVF:
                                                                  1,147 mL
                                                                    398 mL
   Blood products:
   Total out:
                                                                  2,350 mL
                                                                  1,635 mL
   Urine:
                                                                  2,350 mL
                                                                  1,635 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    208 mL
                                                                   -944 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 410 (361 - 449) mL
   PS : 10 cmH2O
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   SpO2: 92%
   ABG: 7.37/49/66/25/1
   Ve: 11.1 L/min
   PaO2 / FiO2: 94
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant)
   Abdominal: Soft, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   435 K/uL
   149 mg/dL
   0.9 mg/dL
   25 mEq/L
   5.0 mEq/L
   49 mg/dL
   114 mEq/L
   149 mEq/L
   30.5 %
   27.2 K/uL
        [image002.jpg]
                             [**2192-3-28**]  03:14 AM
                             [**2192-3-28**]  05:00 AM
                             [**2192-3-28**]  05:57 AM
                             [**2192-3-28**]  08:37 AM
                             [**2192-3-28**]  10:26 AM
                             [**2192-3-29**]  03:58 AM
                             [**2192-3-29**]  04:27 AM
                             [**2192-3-29**]  04:58 AM
                             [**2192-3-29**]  06:22 AM
                             [**2192-3-29**]  06:25 AM
   WBC
   27.2
   Hct
   30.5
   Plt
   435
   Cr
   1.1
   0.9
   TCO2
   25
   26
   26
   25
   25
   31
   28
   29
   Glucose
   140
   149
   Other labs: PT / PTT / INR:12.5/23.7/1.1, ALT / AST:29/13, Alk Phos / T
   Bili:103/0.2, Differential-Neuts:92.0 %, Band:5.0 %, Lymph:2.0 %,
   Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL,
   Ca++:8.5 mg/dL, Mg++:2.4 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR- no sig change since yest
   Microbiology: Sputum- GPCs, yeast
   Assessment and Plan
   67 yo w/ prior smoker w/ severe COPD on home O2 admitted w/ resp
   failure due to pneumonia and COPD exacerbation.
   1. Resp failure- severe COPD exac due to pneumonia. Prior partial RUL
   collapse from [**5-4**] will need further evaluation down the road and might
   have predisposed to current pna. desat yest w/ poss aspiration? will
   have to monitor for infxn but so far clinically defervescing and no new
   infiltrate
   -will have asymmetric lung physiology as L lung is emphysematous and R
   lung is infected, so will need to be cautious of L lung volu- and
   [**Doctor Last Name **]-trauma
   -wean FiO2 to maintain PaO2 > 60
   -tolerate autoPEEP for now as Pplat < 30 and hemodyn stable
   -assess spont breathing tolerance today but caution on weaning
   -start aggressive diuresis w/ goal -1-2L neg today; will check pm lytes
   -vanco + cefepime + azithro (change to IV) for now --> plan for empiric
   8d course pending cx data
   -tx COPD exac w/ Solu-Medrol --> cont 125 q8 today and scheduled nebs;
   wean steroids tomorrow
   -will need CT scan at some point to re-evaluate, poss bronch
   2.  Shock- resolved, likely multifactorial, sepsis vs meds
   -recent echo [**10-4**] w/ nl EF
   3. HyperNa- monitor w/ diuresis; may need need free H2O boluses
   4. Possible aspiration- has not had BM since admit; constipation might
   be contributing
   -replace OGT
   -aggressive bowel regimen w/ Dulcolax and PO Narcan; hold on enteral
   feee H20 and tube feeds till bowels are moving
   ICU Care
   Nutrition:
   Comments: replaced OGT
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2192-3-27**] 04:24 AM
   Arterial Line - [**2192-3-27**] 04:31 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 4052**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize.
   67 yo women with severe COPD, admitted with PNA , respiratory failure,
   septic shock.
   On exam:  is arousable to voice.
   Lungs improved BS on right
   CV: reg
   Abd: soft
   Ext: 2+ U/E edema
   A/P
   PNA/respiratory failure:  overall improvement with reduced WBC, but
   still requiring high level of oxygen likely reflects severity of
   underlying COPD with PNA.  Continue current ventilator settings.
   COPD:  can start weaning steroids tomorrow.
   Septic shock:  Off pressors.
   CC 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) **], MD
   on:[**2192-3-29**] 14:04 ------

2192-03-30 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - called sister after SW helped find # (pasted above) - voicemail, left
   message requesting that she call [**Numeric Identifier 11845**] for update
   - no BM with PO narcan x 1, switched to lactulose, awaiting BM to
   restart TF
   - lasix 40 mg IV x 1 -->~1500cc UOP/3 hours, net ~2.5L negative for the
   day
   - started FW repletion IV, then via OG but increased residuals so had
   to stop
   - 1700 air leak ? tube came out vs hole-->extubated, reintubated, back
   on AC-->going back to PSV 12/10
   - having small BM after lactulose and PO narcan, both written for
   standing until more BM
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2192-3-29**] 08:00 PM
   Cefipime - [**2192-3-29**] 09:45 PM
   Azithromycin - [**2192-3-30**] 07:33 AM
   Infusions:
   Fentanyl - 125 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-3-29**] 10:10 AM
   Furosemide (Lasix) - [**2192-3-29**] 10:10 AM
   Heparin Sodium (Prophylaxis) - [**2192-3-30**] 07:33 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-3-30**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 77 (64 - 86) bpm
   BP: 138/69(91) {93/59(79) - 148/85(107)} mmHg
   RR: 17 (11 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
    CVP: 1 (1 - 5)mmHg
   Total In:
                                                                  2,179 mL
                                                                  1,031 mL
   PO:
   TF:
                                                                    243 mL
                                                                     38 mL
   IVF:
                                                                  1,766 mL
                                                                    703 mL
   Blood products:
   Total out:
                                                                  4,965 mL
                                                                  1,195 mL
   Urine:
                                                                  4,965 mL
                                                                  1,195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,786 mL
                                                                   -164 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 429 (323 - 510) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 23 cmH2O
   Plateau: 25 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 94%
   ABG: 7.36/56/76.[**Numeric Identifier 299**]/31/3
   Ve: 7.5 L/min
   PaO2 / FiO2: 95
   Physical Examination
   GEN: intubated
   HEENT:JVP not elevated
   CHEST:  very poor air movement, expiratory wheezes diffusely
   CARDIAC: difficult to auscultate under breath sounds, distant, regular,
   no murmurs audible
   ABDOMEN: scar R of umbilicus well-healed, obese, soft, nontender
   EXTREMITIES: trace bilaterally pitting edema
   Labs / Radiology
   446 K/uL
   9.7 g/dL
   166 mg/dL
   0.8 mg/dL
   31 mEq/L
   4.6 mEq/L
   36 mg/dL
   109 mEq/L
   148 mEq/L
   30.2 %
   28.5 K/uL
        [image002.jpg]
                             [**2192-3-29**]  03:58 AM
                             [**2192-3-29**]  04:27 AM
                             [**2192-3-29**]  04:58 AM
                             [**2192-3-29**]  06:22 AM
                             [**2192-3-29**]  06:25 AM
                             [**2192-3-29**]  11:19 AM
                             [**2192-3-29**]  05:56 PM
                             [**2192-3-29**]  06:32 PM
                             [**2192-3-30**]  03:39 AM
                             [**2192-3-30**]  04:03 AM
   WBC
   27.2
   28.5
   Hct
   30.5
   30.2
   Plt
   435
   446
   Cr
   1.1
   0.9
   0.9
   0.8
   TCO2
   31
   28
   29
   31
   33
   33
   Glucose
   140
   149
   194
   166
   Other labs: PT / PTT / INR:12.5/23.7/1.1, ALT / AST:29/13, Alk Phos / T
   Bili:103/0.2, Differential-Neuts:92.0 %, Band:5.0 %, Lymph:2.0 %,
   Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL,
   Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, CHRONIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   A 67 yo woman with a history of very severe COPD on home O2 presents
   with pneumonia and COPD exacerbation requiring MICU admission.
   #  Respiratory failure: Multilobar loneumonia & COPD.   Likely volume
   overload is now also contributing. LOS still 5.6 L net positive.
   Remains on PSV 12/10, but FiO2 requirement seems to be going up.  GPCs
   in sputum from [**2192-3-27**] are most likely coag-neg Staph, with oral flora.
   Legionella (-)
   - f/u final sputum cx report
   - diurese more with furosemide 40 mg IV x 1 now; goal
2 L net negative
   again today
   - will change to AC settings with ARDsnet protocol to decrease volumes
   -serial ABG
   - decrease methylprednisolone to 100 mg q12h
   - continue nebs
   .
   # PNA:  sputum cx unrevealing so far. GPC from [**3-27**] sputum most likely
   coag-neg Stap. Legionella (-) in sputum, other cx negative.
   - continue vancomycin, cefepime, and azithromycin for 8-day course
   - might bronch tomorrow
   - consider chest CT
   #. Shock:  Resolved. No longer needs pressor.
   - Abx as above
   # Kidney injury:  improved with signficant fluid hydration, Cr now 0.9
   #  Hx of hypertension:  recently hypotensive on pressors. BP now
   normotensive.
   - hold all antihypertensives
   # Hypernatremia: free water deficit is about 4L.
   - 500cc D5W now
   - 250 cc free water bolus q4h if TF continues working
   - pm lytes
   # FEN: IVF boluses / replete lytes prn / tube feeds
   # PPX: PPI per home regimen, heparin SQ, bowel regimen, VAP Care
   # ACCESS: RIJ, L radial Art line, PIV x 1
   # CODE:  Full, discussed with patient
   # CONTACT:  with patient.  Emergency contact is sister, [**Name (NI) 3137**]
   [**Name (NI) 4537**], number in chart
   # ICU CONSENT: signed, in chart
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 3031**]
   [x] ICU

2192-03-30 11:39:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67 yo w/ prior smoker w/ severe COPD on home O2 admitted w/ resp
   failure due to pneumonia and COPD exacerbation.
   24 Hour Events:
   air leak on vent yest pm --> ETT changed by Anesthesia w/ resolution.
   This am denies pain.
   History obtained from Patient
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2192-3-30**] 07:33 AM
   Vancomycin - [**2192-3-30**] 09:17 AM
   Cefipime - [**2192-3-30**] 10:33 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-3-30**] 07:33 AM
   Pantoprazole (Protonix) - [**2192-3-30**] 10:33 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-3-30**] 11:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.5
C (97.7
   HR: 76 (64 - 86) bpm
   BP: 117/89(101) {93/59(79) - 151/89(107)} mmHg
   RR: 18 (17 - 29) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
   CVP: 1 (1 - 5)mmHg
   Total In:
                                                                  2,179 mL
                                                                  1,474 mL
   PO:
   TF:
                                                                    243 mL
                                                                     95 mL
   IVF:
                                                                  1,766 mL
                                                                  1,029 mL
   Blood products:
   Total out:
                                                                  4,965 mL
                                                                  1,755 mL
   Urine:
                                                                  4,965 mL
                                                                  1,605 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                 -2,786 mL
                                                                   -281 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 461 (323 - 470) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 21
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 11 cmH2O
   Plateau: 25 cmH2O
   Compliance: 30 cmH2O/mL
   SpO2: 93%
   ABG: 7.36/56/76.[**Numeric Identifier 299**]/31/3
   Ve: 8 L/min
   PaO2 / FiO2: 109
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, No(t) Sedated, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   446 K/uL
   166 mg/dL
   0.8 mg/dL
   31 mEq/L
   4.6 mEq/L
   36 mg/dL
   109 mEq/L
   148 mEq/L
   30.2 %
   28.5 K/uL
        [image002.jpg]
                             [**2192-3-29**]  03:58 AM
                             [**2192-3-29**]  04:27 AM
                             [**2192-3-29**]  04:58 AM
                             [**2192-3-29**]  06:22 AM
                             [**2192-3-29**]  06:25 AM
                             [**2192-3-29**]  11:19 AM
                             [**2192-3-29**]  05:56 PM
                             [**2192-3-29**]  06:32 PM
                             [**2192-3-30**]  03:39 AM
                             [**2192-3-30**]  04:03 AM
   WBC
   27.2
   28.5
   Hct
   30.5
   30.2
   Plt
   435
   446
   Cr
   1.1
   0.9
   0.9
   0.8
   TCO2
   31
   28
   29
   31
   33
   33
   Glucose
   140
   149
   194
   166
   Other labs: PT / PTT / INR:12.5/23.7/1.1, ALT / AST:29/13, Alk Phos / T
   Bili:103/0.2, Differential-Neuts:92.0 %, Band:5.0 %, Lymph:2.0 %,
   Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL,
   Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR- no change
   Microbiology: Sputum ([**3-27**])- yeast, GPC in pairs
   All other cx neg or pending
   Assessment and Plan
   67 yo w/ prior smoker w/ severe COPD on home O2 admitted w/ resp
   failure due to pneumonia and COPD exacerbation.
    1. Resp failure- severe COPD exac due to pneumonia w/ ARDS.
   -will have asymmetric lung physiology as L lung is emphysematous and R
   lung is infected, so will need to be cautious of L lung volu- and
   [**Doctor Last Name **]-trauma
   -switch to better ARDSnet ventilation --> A/CV w/ 6cc/kg Vt and
   permissive hypercpania, tolerating pH down to 7.20
   -wean FiO2 to maintain PaO2 > 60; keep PEEP
   -cont aggressive diuresis w/ goal -1-2L neg today; will check pm lytes
   -vanco + cefepime + azithro --> plan for empiric 8d course pending cx
   data
   -tx COPD exac w/ Solu-Medrol --> wean steroids to 125 q12 today
   -will need CT scan at some point to re-evaluate, poss bronch given RUL
   collapse seen in [**5-4**], can be deferred til better on vent
   2.  Shock- resolved, likely multifactorial, sepsis vs meds
   -recent echo [**10-4**] w/ nl EF
   3. HyperNa- monitor w/ diuresis;
   -start free H20 boluses per NGT plus d5w IV and monitor
   4. Constipation- resolving
   -cont aggressive regimen
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2192-3-30**] 02:30 AM 25 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-3-27**] 04:24 AM
   Arterial Line - [**2192-3-27**] 04:31 AM
   18 Gauge - [**2192-3-29**] 11:59 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 4052**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize.
   67 yo women with COPD, respiratory failure, PNA, sepsis.  Largely
   unchanged from yesterday.  Required ETT change.
   Exam:  notable for arousable and follows some commands.  Crackles along
   right lung.  Abd: soft , ext: trace edema in LE.
   A/P
   Respiratory failure:  Slight improvement in Abg from yesterday
 PO2
   now 71.   Continued ARDS/PNA in background of severe COPD.  Continue
   antibiotics, wean steroids.  ARDsnet ventilation.
   Septic shock:  now stable off pressors.
   Hypernatremia: due to lasix, increase free water.
   CC 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) **], MD
   on:[**2192-3-30**] 12:55 ------

2192-03-31 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - received furosemide 40 mg IV x 2; reached contraction alkolosis
   - bit on ET tube, creating air leaks; had to be extubated and
   re-intubated
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2192-3-30**] 07:33 AM
   Cefipime - [**2192-3-30**] 10:33 AM
   Vancomycin - [**2192-3-30**] 08:00 PM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-3-30**] 10:33 AM
   Heparin Sodium (Prophylaxis) - [**2192-3-30**] 03:17 PM
   Furosemide (Lasix) - [**2192-3-30**] 06:41 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-3-31**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.7
   HR: 79 (75 - 92) bpm
   BP: 113/59(76) {105/50(67) - 151/89(105)} mmHg
   RR: 19 (10 - 27) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
    CVP: 10 (1 - 13)mmHg
   Total In:
                                                                  3,362 mL
                                                                    477 mL
   PO:
   TF:
                                                                    418 mL
                                                                    301 mL
   IVF:
                                                                  1,945 mL
                                                                    146 mL
   Blood products:
   Total out:
                                                                  4,150 mL
                                                                    460 mL
   Urine:
                                                                  4,000 mL
                                                                    460 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                   -788 mL
                                                                     17 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 340 (340 - 340) mL
   Vt (Spontaneous): 339 (339 - 461) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 3
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   SpO2: 91%
   ABG: 7.37/56/71/34/4
   Ve: 6.5 L/min
   PaO2 / FiO2: 118
   Physical Examination
   GEN: intubated
   HEENT:JVP not elevated
   CHEST:  very poor air movement, expiratory wheezes diffusely
   CARDIAC: difficult to auscultate under breath sounds, distant, regular,
   no murmurs audible
   ABDOMEN: scar R of umbilicus well-healed, obese, soft, nontender
   EXTREMITIES: trace bilaterally pitting edema
   Labs / Radiology
   535 K/uL
   9.7 g/dL
   150 mg/dL
   0.8 mg/dL
   34 mEq/L
   4.5 mEq/L
   35 mg/dL
   104 mEq/L
   145 mEq/L
   30.6 %
   26.2 K/uL
        [image002.jpg]
                             [**2192-3-29**]  06:22 AM
                             [**2192-3-29**]  06:25 AM
                             [**2192-3-29**]  11:19 AM
                             [**2192-3-29**]  05:56 PM
                             [**2192-3-29**]  06:32 PM
                             [**2192-3-30**]  03:39 AM
                             [**2192-3-30**]  04:03 AM
                             [**2192-3-30**]  12:28 PM
                             [**2192-3-30**]  05:35 PM
                             [**2192-3-31**]  02:20 AM
   WBC
   28.5
   26.2
   Hct
   30.2
   30.6
   Plt
   446
   535
   Cr
   0.9
   0.9
   0.8
   0.8
   0.8
   TCO2
   29
   31
   33
   33
   34
   Glucose
   149
   194
   166
   168
   150
   Other labs: PT / PTT / INR:12.5/23.7/1.1, ALT / AST:29/13, Alk Phos / T
   Bili:103/0.2, Differential-Neuts:92.0 %, Band:5.0 %, Lymph:2.0 %,
   Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL,
   Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, CHRONIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   A 67 yo woman with a history of very severe COPD on home O2 presents
   with pneumonia and COPD exacerbation requiring MICU admission.
   #  Respiratory failure: Multilobar loneumonia & COPD.   Likely volume
   overload is now also contributing. LOS still 5.6 L net positive.
   Remains on PSV 12/10, but FiO2 requirement seems to be going up.  GPCs
   in sputum from [**2192-3-27**] are most likely coag-neg Staph, with oral flora.
   Legionella (-)
   - f/u final sputum cx report
   - diurese more with furosemide 40 mg IV x 1 now; goal
2 L net negative
   again today
   - will change to AC settings with ARDsnet protocol to decrease volumes
   -serial ABG
   - decrease methylprednisolone to 100 mg q12h
   - continue nebs
   .
   # PNA:  sputum cx unrevealing so far. GPC from [**3-27**] sputum most likely
   coag-neg Stap. Legionella (-) in sputum, other cx negative.
   - continue vancomycin, cefepime, and azithromycin for 8-day course
   - might bronch tomorrow
   - consider chest CT
   #. Shock:  Resolved. No longer needs pressor.
   - Abx as above
   # Kidney injury:  improved with signficant fluid hydration, Cr now 0.9
   #  Hx of hypertension:  recently hypotensive on pressors. BP now
   normotensive.
   - hold all antihypertensives
   # Hypernatremia: free water deficit is about 4L.
   - 500cc D5W now
   - 250 cc free water bolus q4h if TF continues working
   - pm lytes
   # FEN: IVF boluses / replete lytes prn / tube feeds
   # PPX: PPI per home regimen, heparin SQ, bowel regimen, VAP Care
   # ACCESS: RIJ, L radial Art line, PIV x 1
   # CODE:  Full, discussed with patient
   # CONTACT:  with patient.  Emergency contact is sister, [**Name (NI) 3137**]
   [**Name (NI) 4537**], number in chart
   # ICU CONSENT: signed, in chart
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 3031**]
   [x] ICU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2192-3-30**] 08:00 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-3-27**] 04:24 AM
   Arterial Line - [**2192-3-27**] 04:31 AM
   18 Gauge - [**2192-3-29**] 11:59 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-03-31 08:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67 yo w/ prior smoker w/ severe COPD on home O2 admitted w/ resp
   failure due to pneumonia and COPD exacerbation.  Intubated 5 days ago.
   24 Hour Events:
   Lasix 80mg IV given last night, now negative 800cc.
   ETT had to be replaced last night due to injury to the cuff and air
   leak.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Cefepime - [**2192-3-30**] 10:33 AM
   Vancomycin - [**2192-3-30**] 08:00 PM
   Azithromycin - [**2192-3-31**] 07:30 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-3-30**] 10:33 AM
   Heparin Sodium (Prophylaxis) - [**2192-3-30**] 03:17 PM
   Furosemide (Lasix) - [**2192-3-30**] 06:41 PM
   Fentanyl - [**2192-3-31**] 07:30 AM
   Po narcan q6
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-3-31**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.4
C (97.6
   HR: 79 (75 - 92) bpm
   BP: 113/59(76) {105/50(67) - 146/89(102)} mmHg
   RR: 19 (10 - 27) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
   CVP: 10 (1 - 13)mmHg
   Total In:
                                                                  3,362 mL
                                                                    805 mL
   PO:
   TF:
                                                                    418 mL
                                                                    340 mL
   IVF:
                                                                  1,945 mL
                                                                    404 mL
   Blood products:
   Total out:
                                                                  4,150 mL
                                                                    520 mL
   Urine:
                                                                  4,000 mL
                                                                    520 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                   -788 mL
                                                                    285 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 340 (340 - 340) mL
   Vt (Spontaneous): 339 (339 - 339) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 3
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   SpO2: 91%
   ABG: 7.37/56/71/34/4
   Ve: 6.5 L/min
   PaO2 / FiO2: 118
   Physical Examination
   Gen:Intubated, sedated but awakens to voice
   HEENT: PERRL, anicteric
   CV: RRR, no m/r/g
   PULM: coarse BS bilaterally
   ABD:soft, reducible hernia unchanged
   Extrem: 1+ edema both legs, improved from previous
   Neuro: sedated but easily arousable
   Skin: no rashes
   Labs / Radiology
   9.7 g/dL
   535 K/uL
   150 mg/dL
   0.8 mg/dL
   34 mEq/L
   4.5 mEq/L
   35 mg/dL
   104 mEq/L
   145 mEq/L
   30.6 %
   26.2 K/uL
        [image002.jpg]
                             [**2192-3-29**]  06:22 AM
                             [**2192-3-29**]  06:25 AM
                             [**2192-3-29**]  11:19 AM
                             [**2192-3-29**]  05:56 PM
                             [**2192-3-29**]  06:32 PM
                             [**2192-3-30**]  03:39 AM
                             [**2192-3-30**]  04:03 AM
                             [**2192-3-30**]  12:28 PM
                             [**2192-3-30**]  05:35 PM
                             [**2192-3-31**]  02:20 AM
   WBC
   28.5
   26.2
   Hct
   30.2
   30.6
   Plt
   446
   535
   Cr
   0.9
   0.9
   0.8
   0.8
   0.8
   TCO2
   29
   31
   33
   33
   34
   Glucose
   149
   194
   166
   168
   150
   Other labs: PT / PTT / INR:12.5/23.7/1.1, ALT / AST:29/13, Alk Phos / T
   Bili:103/0.2, Differential-Neuts:92.0 %, Band:5.0 %, Lymph:2.0 %,
   Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL,
   Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   67 yo w/ prior smoker w/ severe COPD on home O2 admitted w/ resp
   failure due to pneumonia and COPD exacerbation.
    1. Resp failure- severe COPD exac due to pneumonia w/ ARDS.
   -will have asymmetric lung physiology as L lung is emphysematous and R
   lung is infected, so will need to be cautious of L lung volu- and
   [**Doctor Last Name **]-trauma
   -wean FiO2 to maintain PaO2 > 60; increase PEEP to 12 since O2 sat on
   low side
   -cont aggressive diuresis w/ goal -1-2L neg today; will check pm lytes.
   Change to lasix gtt (low rate) for slow continuous diuresis
   -vanco + cefepime + azithro --> plan for empiric 8d course pending cx
   data
   -tx COPD exac w/ Solu-Medrol --> change to prednisone 40mg daily pNGT
   -will need CT scan at some point to re-evaluate, poss bronch given RUL
   collapse seen in [**5-4**], can be deferred til better on vent
   -flovent
   -will try to wean sedation and transition to PSV over the course of the
   day
   2.  Shock- resolved, likely multifactorial, sepsis vs meds
   -recent echo [**10-4**] w/ nl EF
   3. HyperNa- monitor w/ diuresis;
   -start free H20 boluses per NGT plus d5w IV and monitor. Na improved,
   continue free H20.
   4. Constipation- resolving
   -cont aggressive regimen
   ICU Care
   Nutrition: tube feeds
   Replete with Fiber (Full) - [**2192-3-30**] 08:00 PM 55 mL/hour
   Glycemic Control:  RISS
   Lines:
   Multi Lumen - [**2192-3-27**] 04:24 AM
   Arterial Line - [**2192-3-27**] 04:31 AM
   18 Gauge - [**2192-3-29**] 11:59 AM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: PPI
   VAP: chlorhexidine, HOB 30 degrees
   Communication:  in touch with family
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 min, patient is critically ill

2192-04-01 08:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Started on lasix gtt with good UOP
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2192-3-31**] 07:30 AM
   Cefipime - [**2192-3-31**] 10:00 PM
   Vancomycin - [**2192-4-1**] 07:56 AM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-4-1**] 07:55 AM
   Furosemide (Lasix) - [**2192-4-1**] 08:05 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-4-1**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 37
C (98.6
   Tcurrent: 35.8
C (96.4
   HR: 75 (68 - 86) bpm
   BP: 103/54(69) {86/50(62) - 131/87(100)} mmHg
   RR: 18 (16 - 23) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  3,783 mL
                                                                  1,513 mL
   PO:
             TF:
                                                                  1,339 mL
                                                                    543 mL
   IVF:
                                                                  1,309 mL
                                                                    446 mL
   Blood products:
   Total out:
                                                                  3,450 mL
                                                                  1,865 mL
   Urine:
                                                                  3,450 mL
                                                                  1,865 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    333 mL
                                                                   -352 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 340 (340 - 340) mL
   Vt (Spontaneous): 417 (389 - 422) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 17
   PEEP: 14 cmH2O
   FiO2: 50%
   PIP: 27 cmH2O
   SpO2: 90%
   ABG: 7.36/68/71/40/9
   Ve: 7.6 L/min
   PaO2 / FiO2: 142
   Physical Examination
   GEN: intubated, sedated, but easily arousable and following commands
   HEENT:JVP not elevated
   CHEST:  very poor air movement, expiratory wheezes diffusely
   CARDIAC: difficult to auscultate under breath sounds, distant, regular,
   no murmurs audible
   ABDOMEN: scar R of umbilicus well-healed, obese, soft, nontender;
   prominent bowel sounds
   EXTREMITIES: trace bilaterally pitting edema, improving
   Labs / Radiology
   537 K/uL
   10.0 g/dL
   133 mg/dL
   0.8 mg/dL
   40 mEq/L
   4.1 mEq/L
   40 mg/dL
   97 mEq/L
   143 mEq/L
   32.0 %
   23.1 K/uL
        [image002.jpg]
                             [**2192-3-29**]  05:56 PM
                             [**2192-3-29**]  06:32 PM
                             [**2192-3-30**]  03:39 AM
                             [**2192-3-30**]  04:03 AM
                             [**2192-3-30**]  12:28 PM
                             [**2192-3-30**]  05:35 PM
                             [**2192-3-31**]  02:20 AM
                             [**2192-3-31**]  05:40 PM
                             [**2192-3-31**]  06:02 PM
                             [**2192-4-1**]  03:16 AM
   WBC
   28.5
   26.2
   23.1
   Hct
   30.2
   30.6
   32.0
   Plt
   446
   535
   537
   Cr
   0.9
   0.8
   0.8
   0.8
   0.7
   0.8
   TCO2
   33
   33
   34
   40
   Glucose
   194
   166
   168
   150
   171
   133
   Other labs: PT / PTT / INR:12.5/23.7/1.1, ALT / AST:29/13, Alk Phos / T
   Bili:103/0.2, Differential-Neuts:92.0 %, Band:5.0 %, Lymph:2.0 %,
   Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL,
   Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, CHRONIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   A 67 yo woman with a history of very severe COPD with PNA/ARDS,
   continues to be intubated/sedated.
   #  Respiratory failure: Multilobar pneumonia & COPD c/b ARDS.
   Difficult to oxygenate without high PEEP/FIO2.  Requiring PEEP 14.
   Still significantly positive for the stay.  Lasix gtt started
   yesterday, but still net positive.
   - decrease FW flushes
   - continue Lasix gtt today
   - ABG today
   - continue prednisone 40 and plan to taper
   - Flovent 4 puffs [**Hospital1 **]
   - continue nebs
   - continue high PEEP
   - PM Lytes
   # PNA:  sputum cx unrevealing so far. GPC from [**3-27**] sputum most likely
   coag-neg Stap. Legionella (-) in sputum, other cx negative.
   - continue vancomycin, cefepime, and azithromycin for 8-day course to
   end [**4-3**]
   - change IV meds to PO if possible
   #. Shock:  Resolved. No longer needs pressor.
   - Abx as above
   # Kidney injury:  improved with signficant fluid hydration, Cr now 0.9
   #  Hx of hypertension:  recently hypotensive on pressors. BP now
   normotensive.
   - hold all antihypertensives
   # Hypernatremia: free water deficit resolved
   - decrease FW flushes
   - pm lytes
   # FEN: IVF boluses / replete lytes prn / tube feeds
   # PPX: PPI per home regimen, heparin SQ, bowel regimen, VAP Care
   # ACCESS: RIJ, L radial Art line, PIV x 1
   # CODE:  Full, discussed with patient
   # CONTACT:  with patient.  Emergency contact is sister, [**Name (NI) 3137**]
   [**Name (NI) 4537**], number in chart
   # ICU CONSENT: signed, in chart
   # DISPOSITION:
   [ ] Floor pending further investigation
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2192-4-1**] 07:39 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-3-27**] 04:24 AM
   Arterial Line - [**2192-3-27**] 04:31 AM
   18 Gauge - [**2192-3-29**] 11:59 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-04-01 08:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 67 yo w/ prior smoker w/ severe COPD on home O2 admitted w/ resp
   failure due to pneumonia and COPD exacerbation.  Intubated 5 days ago.
   24 Hour Events:
   Excellent UOP on lasix, but only 500cc neg
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2192-3-31**] 07:30 AM
   Cefipime - [**2192-3-31**] 10:00 PM
   Vancomycin - [**2192-4-1**] 07:56 AM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Lasix gtt at 10mg/hr
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-4-1**] 07:55 AM
   Furosemide (Lasix) - [**2192-4-1**] 08:05 AM
   Colace
   Protonix
   RISS
   Po narcan
   Prednisone 40mg daily
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-4-1**] 08:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 37
C (98.6
   Tcurrent: 35.8
C (96.4
   HR: 75 (68 - 86) bpm
   BP: 103/54(69) {86/50(62) - 131/87(100)} mmHg
   RR: 18 (16 - 23) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  3,783 mL
                                                                  1,518 mL
   PO:
             TF:
                                                                  1,339 mL
                                                                    546 mL
   IVF:
                                                                  1,309 mL
                                                                    447 mL
   Blood products:
   Total out:
                                                                  3,450 mL
                                                                  1,865 mL
   Urine:
                                                                  3,450 mL
                                                                  1,865 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    333 mL
                                                                   -347 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 340 (340 - 340) mL
   Vt (Spontaneous): 442 (389 - 442) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 18
   PEEP: 14 cmH2O
   FiO2: 50%
   PIP: 26 cmH2O
   SpO2: 91%
   ABG: 7.36/68/71/40/9
   Ve: 7.7 L/min
   PaO2 / FiO2: 142
   Physical Examination
   Gen:intubated, sedated
   HEENT:PERRL, anicteric
   CV:RRR, no m/r/g
   PULM:CTA bilat
   ABD:soft, NTND
   EXTREM:
   SKIN:no rashes
   NEURO:sedated
   Labs / Radiology
   10.0 g/dL
   537 K/uL
   133 mg/dL
   0.8 mg/dL
   40 mEq/L
   4.1 mEq/L
   40 mg/dL
   97 mEq/L
   143 mEq/L
   32.0 %
   23.1 K/uL
        [image002.jpg]
                             [**2192-3-29**]  05:56 PM
                             [**2192-3-29**]  06:32 PM
                             [**2192-3-30**]  03:39 AM
                             [**2192-3-30**]  04:03 AM
                             [**2192-3-30**]  12:28 PM
                             [**2192-3-30**]  05:35 PM
                             [**2192-3-31**]  02:20 AM
                             [**2192-3-31**]  05:40 PM
                             [**2192-3-31**]  06:02 PM
                             [**2192-4-1**]  03:16 AM
   WBC
   28.5
   26.2
   23.1
   Hct
   30.2
   30.6
   32.0
   Plt
   446
   535
   537
   Cr
   0.9
   0.8
   0.8
   0.8
   0.7
   0.8
   TCO2
   33
   33
   34
   40
   Glucose
   194
   166
   168
   150
   171
   133
   Other labs: PT / PTT / INR:12.5/23.7/1.1, ALT / AST:29/13, Alk Phos / T
   Bili:103/0.2, Differential-Neuts:92.0 %, Band:5.0 %, Lymph:2.0 %,
   Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL,
   Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   67 yo w/ prior smoker w/ severe COPD on home O2 admitted w/ resp
   failure due to pneumonia and COPD exacerbation.
    1. Resp failure- severe COPD exac due to pneumonia w/ ARDS.
   -will have asymmetric lung physiology as L lung is emphysematous and R
   lung is infected, so will need to be cautious of L lung volu- and
   [**Doctor Last Name **]-trauma
   -wean FiO2 to maintain PaO2 > 60; increase PEEP to 12 since O2 sat on
   low side
   -cont aggressive diuresis w/ goal -1-2L neg today; will check pm lytes.
   Change to lasix gtt (low rate) for slow continuous diuresis
   -vanco + cefepime + azithro --> plan for empiric 8d course pending cx
   data
   -tx COPD exac w/ Solu-Medrol --> change to prednisone 40mg daily pNGT
   -will need CT scan at some point to re-evaluate, poss bronch given RUL
   collapse seen in [**5-4**], can be deferred til better on vent
   -flovent
   -will try to wean sedation and transition to PSV over the course of the
   day
   2.  Shock- resolved, likely multifactorial, sepsis vs meds
   -recent echo [**10-4**] w/ nl EF
   3. HyperNa- monitor w/ diuresis;
   -start free H20 boluses per NGT plus d5w IV and monitor. Na improved,
   continue free H20.
   4. Constipation- resolving
   -cont aggressive regimen
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2192-4-1**] 07:39 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-3-27**] 04:24 AM
   Arterial Line - [**2192-3-27**] 04:31 AM
   18 Gauge - [**2192-3-29**] 11:59 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2192-04-02 04:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - more difficulty with oxygenation in the afternoon, CXR unchanged, up
   from 50% to 70% FiO2 all afternoon
   - decreased FW boluses to attempt to get net negative, still on lasix
   gtt at 10
   - stopped lasix gtt for hypotension (90/60) ~ 1700, still net negative
   ~1.5L/24h
   - able to go back to 60% FiO2 early AM
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2192-4-1**] 09:02 AM
   Vancomycin - [**2192-4-1**] 08:02 PM
   Cefipime - [**2192-4-1**] 10:18 PM
   Infusions:
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2192-4-1**] 08:05 AM
   Pantoprazole (Protonix) - [**2192-4-1**] 10:08 AM
   Heparin Sodium (Prophylaxis) - [**2192-4-2**] 12:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-4-2**] 04:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.6
C (97.8
   HR: 73 (67 - 79) bpm
   BP: 93/59(70) {90/48(62) - 129/94(108)} mmHg
   RR: 16 (15 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  4,214 mL
                                                                    346 mL
   PO:
             TF:
                                                                  1,600 mL
                                                                    266 mL
   IVF:
                                                                  1,493 mL
                                                                     81 mL
   Blood products:
   Total out:
                                                                  5,900 mL
                                                                    180 mL
   Urine:
                                                                  5,900 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,686 mL
                                                                    166 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 412 (323 - 442) mL
   PS : 12 cmH2O
   RR (Spontaneous): 13
   PEEP: 14 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 26 cmH2O
   SpO2: 94%
   ABG: 7.44/64/81.[**Numeric Identifier **]/42/15
   Ve: 5.1 L/min
   PaO2 / FiO2: 137
   Physical Examination
   GEN: intubated, sedated, but easily arousable and following commands
   HEENT:JVP not elevated
   CHEST:  very poor air movement, expiratory wheezes diffusely
   CARDIAC: difficult to auscultate under breath sounds, distant, regular,
   no murmurs audible
   ABDOMEN: scar R of umbilicus well-healed, obese, soft, nontender;
   prominent bowel sounds
   EXTREMITIES: trace bilaterally pitting edema, improving
   Labs / Radiology
   537 K/uL
   10.0 g/dL
   176 mg/dL
   0.8 mg/dL
   42 mEq/L
   4.4 mEq/L
   43 mg/dL
   92 mEq/L
   141 mEq/L
   32.0 %
   23.1 K/uL
        [image002.jpg]
                             [**2192-3-30**]  04:03 AM
                             [**2192-3-30**]  12:28 PM
                             [**2192-3-30**]  05:35 PM
                             [**2192-3-31**]  02:20 AM
                             [**2192-3-31**]  05:40 PM
                             [**2192-3-31**]  06:02 PM
                             [**2192-4-1**]  03:16 AM
                             [**2192-4-1**]  02:09 PM
                             [**2192-4-1**]  06:04 PM
                             [**2192-4-1**]  08:49 PM
   WBC
   26.2
   23.1
   Hct
   30.6
   32.0
   Plt
   535
   537
   Cr
   0.8
   0.8
   0.7
   0.8
   0.8
   TCO2
   33
   34
   40
   40
   45
   Glucose
   168
   150
   171
   133
   176
   Other labs: PT / PTT / INR:12.5/23.7/1.1, ALT / AST:29/13, Alk Phos / T
   Bili:103/0.2, Differential-Neuts:92.0 %, Band:5.0 %, Lymph:2.0 %,
   Mono:0.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL,
   Ca++:8.0 mg/dL, Mg++:1.7 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, CHRONIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   A 67 yo woman with a history of very severe COPD with PNA/ARDS,
   continues to be intubated/sedated.
   #  Respiratory failure: Multilobar pneumonia & COPD c/b ARDS.
   Difficult to oxygenate without high PEEP/FIO2.  Requiring PEEP 14.
   Still significantly positive for the stay.  Lasix gtt started
   yesterday, but still net positive.
   - decrease FW flushes
   - continue Lasix gtt today
   - ABG today
   - continue prednisone 40 and plan to taper
   - Flovent 4 puffs [**Hospital1 **]
   - continue nebs
   - continue high PEEP
   - PM Lytes
   # PNA:  sputum cx unrevealing so far. GPC from [**3-27**] sputum most likely
   coag-neg Stap. Legionella (-) in sputum, other cx negative.
   - continue vancomycin, cefepime, and azithromycin for 8-day course to
   end [**4-3**]
   - change IV meds to PO if possible
   #. Shock:  Resolved. No longer needs pressor.
   - Abx as above
   # Kidney injury:  improved with signficant fluid hydration, Cr now 0.9
   #  Hx of hypertension:  recently hypotensive on pressors. BP now
   normotensive.
   - hold all antihypertensives
   # Hypernatremia: free water deficit resolved
   - decrease FW flushes
   - pm lytes
   # FEN: IVF boluses / replete lytes prn / tube feeds
   # PPX: PPI per home regimen, heparin SQ, bowel regimen, VAP Care
   # ACCESS: RIJ, L radial Art line, PIV x 1
   # CODE:  Full, discussed with patient
   # CONTACT:  with patient.  Emergency contact is sister, [**Name (NI) 3137**]
   [**Name (NI) 4537**], number in chart
   # ICU CONSENT: signed, in chart
   # DISPOSITION:
   [ ] Floor pending further investigation

2192-04-02 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - more difficulty with oxygenation in the afternoon, CXR unchanged, up
   from 50% to 70% FiO2 all afternoon
   - decreased FW boluses to attempt to get net negative, still on lasix
   gtt at 10
   - stopped lasix gtt for hypotension (90/60) ~ 1700, still net negative
   ~1.5L/24h
   - able to go back to 60% FiO2 early AM
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2192-4-1**] 09:02 AM
   Vancomycin - [**2192-4-1**] 08:02 PM
   Cefipime - [**2192-4-1**] 10:18 PM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2192-4-1**] 08:05 AM
   Pantoprazole (Protonix) - [**2192-4-1**] 10:08 AM
   Heparin Sodium (Prophylaxis) - [**2192-4-2**] 12:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-4-2**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 69 (67 - 79) bpm
   BP: 92/49(63) {90/48(63) - 129/94(108)} mmHg
   RR: 18 (15 - 21) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  4,212 mL
                                                                    643 mL
   PO:
             TF:
                                                                  1,599 mL
                                                                    492 mL
   IVF:
                                                                  1,493 mL
                                                                    151 mL
   Blood products:
   Total out:
                                                                  5,900 mL
                                                                    410 mL
   Urine:
                                                                  5,900 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,688 mL
                                                                    233 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 412 (323 - 442) mL
   PS : 12 cmH2O
   RR (Spontaneous): 13
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 26 cmH2O
   SpO2: 90%
   ABG: 7.41/66/84.[**Numeric Identifier 117**]/45/13
   Ve: 5.1 L/min
   PaO2 / FiO2: 168
   Physical Examination
   GEN: intubated, sedated, but easily arousable and following commands
   HEENT:JVP not elevated
   CHEST:  very poor air movement, expiratory wheezes diffusely
   CARDIAC: difficult to auscultate under breath sounds, distant, regular,
   no murmurs audible
   ABDOMEN: scar R of umbilicus well-healed, obese, soft, nontender;
   prominent bowel sounds
   EXTREMITIES: trace bilaterally pitting edema, improving
   Labs / Radiology
   557 K/uL
   9.7 g/dL
   132 mg/dL
   0.8 mg/dL
   45 mEq/L
   4.1 mEq/L
   47 mg/dL
   93 mEq/L
   142 mEq/L
   30.5 %
   24.5 K/uL
        [image002.jpg]
                             [**2192-3-30**]  05:35 PM
                             [**2192-3-31**]  02:20 AM
                             [**2192-3-31**]  05:40 PM
                             [**2192-3-31**]  06:02 PM
                             [**2192-4-1**]  03:16 AM
                             [**2192-4-1**]  02:09 PM
                             [**2192-4-1**]  06:04 PM
                             [**2192-4-1**]  08:49 PM
                             [**2192-4-2**]  04:16 AM
                             [**2192-4-2**]  04:22 AM
   WBC
   26.2
   23.1
   24.5
   Hct
   30.6
   32.0
   30.5
   Plt
   535
   537
   557
   Cr
   0.8
   0.8
   0.7
   0.8
   0.8
   0.8
   TCO2
   40
   40
   45
   43
   Glucose
   168
   150
   171
   133
   176
   132
   Other labs: PT / PTT / INR:12.5/23.7/1.1, ALT / AST:29/13, Alk Phos / T
   Bili:103/0.2, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL,
   Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, CHRONIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   A 67 yo woman with a history of very severe COPD with PNA/ARDS,
   continues to be intubated/sedated.
   #  Respiratory failure: Multilobar pneumonia & COPD c/b ARDS.
   Difficult to oxygenate without high PEEP/FIO2.  Requiring PEEP 14.
   Still significantly positive for the stay.  Lasix gtt started
   yesterday, but still net positive.
   - decrease FW flushes
   - continue Lasix gtt today
   - ABG today
   - continue prednisone 40 and plan to taper
   - Flovent 4 puffs [**Hospital1 **]
   - continue nebs
   - continue high PEEP
   - PM Lytes
   # PNA:  sputum cx unrevealing so far. GPC from [**3-27**] sputum most likely
   coag-neg Stap. Legionella (-) in sputum, other cx negative.
   - continue vancomycin, cefepime, and azithromycin for 8-day course to
   end [**4-3**]
   - change IV meds to PO if possible
   #. Shock:  Resolved. No longer needs pressor.
   - Abx as above
   # Kidney injury:  improved with signficant fluid hydration, Cr now 0.9
   #  Hx of hypertension:  recently hypotensive on pressors. BP now
   normotensive.
   - hold all antihypertensives
   # Hypernatremia: free water deficit resolved
   - decrease FW flushes
   - pm lytes
   # FEN: IVF boluses / replete lytes prn / tube feeds
   # PPX: PPI per home regimen, heparin SQ, bowel regimen, VAP Care
   # ACCESS: RIJ, L radial Art line, PIV x 1
   # CODE:  Full, discussed with patient
   # CONTACT:  with patient.  Emergency contact is sister, [**Name (NI) 3137**]
   [**Name (NI) 4537**], number in chart
   # ICU CONSENT: signed, in chart
   # DISPOSITION:
   [ ] Floor pending further investigation

2192-04-02 10:30:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67 yo women with severe PNA, respiratory failure:  has been getting
   diuresed for fluid overload in order to optimize ventilation.
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2192-4-1**] 10:18 PM
   Vancomycin - [**2192-4-2**] 08:02 AM
   Azithromycin - [**2192-4-2**] 08:39 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-4-1**] 10:08 AM
   Heparin Sodium (Prophylaxis) - [**2192-4-2**] 08:02 AM
   Other medications:
   atrovent
   chlorhex
   azithro
   SSI
   albuterol
   narcan PO
   prednisone 40mg qd
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-4-2**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 74 (67 - 79) bpm
   BP: 97/53(68) {90/48(63) - 129/94(108)} mmHg
   RR: 21 (15 - 21) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  4,212 mL
                                                                  1,348 mL
   PO:
             TF:
                                                                  1,599 mL
                                                                    657 mL
   IVF:
                                                                  1,493 mL
                                                                    652 mL
   Blood products:
   Total out:
                                                                  5,900 mL
                                                                    585 mL
   Urine:
                                                                  5,900 mL
                                                                    585 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,688 mL
                                                                    763 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 343 (323 - 431) mL
   PS : 12 cmH2O
   RR (Spontaneous): 16
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 27 cmH2O
   SpO2: 90%
   ABG: 7.41/66/84.[**Numeric Identifier 117**]/45/13
   Ve: 6.1 L/min
   PaO2 / FiO2: 168
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   557 K/uL
   132 mg/dL
   0.8 mg/dL
   45 mEq/L
   4.1 mEq/L
   47 mg/dL
   93 mEq/L
   142 mEq/L
   30.5 %
   24.5 K/uL
        [image002.jpg]
                             [**2192-3-30**]  05:35 PM
                             [**2192-3-31**]  02:20 AM
                             [**2192-3-31**]  05:40 PM
                             [**2192-3-31**]  06:02 PM
                             [**2192-4-1**]  03:16 AM
                             [**2192-4-1**]  02:09 PM
                             [**2192-4-1**]  06:04 PM
                             [**2192-4-1**]  08:49 PM
                             [**2192-4-2**]  04:16 AM
                             [**2192-4-2**]  04:22 AM
   WBC
   26.2
   23.1
   24.5
   Hct
   30.6
   32.0
   30.5
   Plt
   535
   537
   557
   Cr
   0.8
   0.8
   0.7
   0.8
   0.8
   0.8
   TCO2
   40
   40
   45
   43
   Glucose
   168
   150
   171
   133
   176
   132
   Other labs: PT / PTT / INR:12.5/23.7/1.1, ALT / AST:29/13, Alk Phos / T
   Bili:103/0.2, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL,
   Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   Respiratory failure:  still requiring high PEEP.  continue diuresis.
   Will switch over to AC to control Vt in setting of ARDS.
   COPD:  wean prednisone.
   Fluid overload:  continue to diurese.  Aim net 1L negative today.  can
   treat alkalosis with diamox
   PNA:  continue current antibiotics. final day is tomorrow.
   hypernatremia: improved
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2192-4-2**] 06:02 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-3-27**] 04:24 AM
   Arterial Line - [**2192-3-27**] 04:31 AM
   18 Gauge - [**2192-3-29**] 11:59 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2192-04-03 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - furosemide gtt restarted; MAP remains in mid 60s
   - trying to get IV meds and TF concentrated to reduce intake
   - back on AC with Tv in low 300s
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2192-4-2**] 08:39 AM
   Vancomycin - [**2192-4-2**] 08:00 PM
   Cefipime - [**2192-4-2**] 10:00 PM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Furosemide (Lasix) - 10 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-4-3**] 12:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-4-3**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.4
C (97.5
   HR: 70 (67 - 93) bpm
   BP: 87/48(61) {87/47(61) - 124/70(89)} mmHg
   RR: 22 (16 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  3,608 mL
                                                                    710 mL
   PO:
             TF:
                                                                  1,560 mL
                                                                    469 mL
   IVF:
                                                                  1,448 mL
                                                                    241 mL
   Blood products:
   Total out:
                                                                  3,240 mL
                                                                    920 mL
   Urine:
                                                                  3,240 mL
                                                                    920 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    368 mL
                                                                   -210 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 0 (0 - 343) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 25 cmH2O
   Compliance: 38.9 cmH2O/mL
   SpO2: 95%
   ABG: 7.43/68/76.[**Numeric Identifier 299**]/46/16
   Ve: 6.9 L/min
   PaO2 / FiO2: 152
   Physical Examination
   GEN: intubated, sedated, but easily arousable and following commands
   HEENT:JVP not elevated
   CHEST:  very poor air movement, expiratory wheezes diffusely
   CARDIAC: difficult to auscultate under breath sounds, distant, regular,
   no murmurs audible
   ABDOMEN: scar R of umbilicus well-healed, obese, soft, nontender;
   prominent bowel sounds
   EXTREMITIES: trace bilaterally pitting edema, improving
   Labs / Radiology
   475 K/uL
   9.3 g/dL
   114 mg/dL
   0.9 mg/dL
   46 mEq/L
   4.2 mEq/L
   48 mg/dL
   91 mEq/L
   143 mEq/L
   29.6 %
   24.7 K/uL
         [image002.jpg]
                             [**2192-4-1**]  02:09 PM
                             [**2192-4-1**]  06:04 PM
                             [**2192-4-1**]  08:49 PM
                             [**2192-4-2**]  04:16 AM
                             [**2192-4-2**]  04:22 AM
                             [**2192-4-2**]  05:09 PM
                             [**2192-4-2**]  05:22 PM
                             [**2192-4-2**]  10:16 PM
                             [**2192-4-3**]  03:59 AM
                             [**2192-4-3**]  04:03 AM
   WBC
   24.5
   24.7
   Hct
   30.5
   29.6
   Plt
   557
   475
   Cr
   0.8
   0.8
   0.9
   0.9
   TCO2
   40
   45
   43
   48
   48
   47
   Glucose
   176
   132
   185
   114
   Other labs: PT / PTT / INR:12.5/23.7/1.1, ALT / AST:29/13, Alk Phos / T
   Bili:103/0.2, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL,
   Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, CHRONIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   A 67 yo woman with a history of very severe COPD with PNA/ARDS,
   continues to be intubated/sedated.
   #  Respiratory failure: Multilobar pneumonia & COPD c/b ARDS.
   Difficult to oxygenate without high PEEP/FIO2.  Requiring high PEEP and
   PSV.   Still significantly positive for the stay- LOS 4.5 liters.
   Continue lasix gtt, plan for goal I/O negative 1 liter.
   -repeat ABG and lytes, if pH increasing or bicarb increasing may start
   diamox
   -taper prednisone to 30mg daily today
   # PNA:  sputum cx unrevealing so far. GPC from [**3-27**] sputum most likely
   coag-neg Stap. Legionella (-) in sputum, other cx negative.
   - continue vancomycin, cefepime, d/c azithromycin for 8-day course to
   end [**4-3**]
   - change IV meds to PO if possible
   #. Shock:  Resolved. No longer needs pressor.
   - Abx as above
   # Kidney injury:  improved with signficant fluid hydration, Cr now 0.9
   #  Hx of hypertension:  recently hypotensive on pressors. BP now
   normotensive.
   - hold all antihypertensives
   # FEN: IVF boluses / replete lytes prn / tube feeds
   # PPX: PPI per home regimen, heparin SQ, bowel regimen, VAP Care
   # ACCESS: RIJ, L radial Art line, PIV x 1
   # CODE:  Full, discussed with patient
   # CONTACT:  with patient.  Emergency contact is sister, [**Name (NI) 3137**]
   [**Name (NI) 4537**], number in chart
   # ICU CONSENT: signed, in chart
   # DISPOSITION:  ICU
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2192-4-3**] 04:43 AM 65 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-3-27**] 04:24 AM
   Arterial Line - [**2192-3-27**] 04:31 AM
   18 Gauge - [**2192-3-29**] 11:59 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-04-03 10:20:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67 yo w/ prior smoker w/ severe COPD on home O2 admitted w/ resp
   failure due to ARDS from pneumonia and COPD exacerbation.
   24 Hour Events:
   Acetazolamide 250 q6 started overnight.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2192-4-2**] 08:39 AM
   Cefipime - [**2192-4-2**] 10:00 PM
   Vancomycin - [**2192-4-3**] 08:43 AM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-4-3**] 12:47 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-4-3**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.9
C (98.5
   HR: 78 (67 - 93) bpm
   BP: 120/60(79) {87/47(61) - 124/70(89)} mmHg
   RR: 20 (19 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  3,608 mL
                                                                  1,250 mL
   PO:
             TF:
                                                                  1,560 mL
                                                                    655 mL
   IVF:
                                                                  1,448 mL
                                                                    536 mL
   Blood products:
   Total out:
                                                                  3,240 mL
                                                                  1,680 mL
   Urine:
                                                                  3,240 mL
                                                                  1,680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    368 mL
                                                                   -430 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 25 cmH2O
   Compliance: 38.9 cmH2O/mL
   SpO2: 96%
   ABG: 7.43/68/76.[**Numeric Identifier 299**]/46/16
   Ve: 9.3 L/min
   PaO2 / FiO2: 152
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant)
   Abdominal: Soft, Bowel sounds present, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   475 K/uL
   114 mg/dL
   0.9 mg/dL
   46 mEq/L
   4.2 mEq/L
   48 mg/dL
   91 mEq/L
   143 mEq/L
   29.6 %
   24.7 K/uL
        [image002.jpg]
                             [**2192-4-1**]  02:09 PM
                             [**2192-4-1**]  06:04 PM
                             [**2192-4-1**]  08:49 PM
                             [**2192-4-2**]  04:16 AM
                             [**2192-4-2**]  04:22 AM
                             [**2192-4-2**]  05:09 PM
                             [**2192-4-2**]  05:22 PM
                             [**2192-4-2**]  10:16 PM
                             [**2192-4-3**]  03:59 AM
                             [**2192-4-3**]  04:03 AM
   WBC
   24.5
   24.7
   Hct
   30.5
   29.6
   Plt
   557
   475
   Cr
   0.8
   0.8
   0.9
   0.9
   TCO2
   40
   45
   43
   48
   48
   47
   Glucose
   176
   132
   185
   114
   Other labs: PT / PTT / INR:12.5/23.7/1.1, ALT / AST:29/13, Alk Phos / T
   Bili:103/0.2, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL,
   Ca++:8.4 mg/dL, Mg++:2.0 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR- ? worsened RLL infiltrate
   Assessment and Plan
   67 yo w/ prior smoker w/ severe COPD on home O2 admitted w/ resp
   failure due to pneumonia and COPD exacerbation.
    1. Resp failure- severe COPD exac due to pneumonia w/ ARDS.
   -will have asymmetric lung physiology as L lung is emphysematous and R
   lung is infected, so will need to be cautious of L lung volu- and
   [**Doctor Last Name **]-trauma
   -cont ARDSnet ventilation --> A/CV w/ 6cc/kg Vt and permissive
   hypercpania, tolerating pH down to 7.20
   -wean FiO2 and PEEP to maintain PaO2 > 60
   -cont aggressive diuresis w/ goal -1-2L neg today; will check pm lytes.
   have added azetazolamide to help w/ HCO3 wasting in the setting of
   contraction alkalosis
   -will concentrate IVF and tube feeds
   -complete  8d course of ABX today
   -steroids weaning to 30 qd tomorrow
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2192-4-3**] 04:43 AM 65 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2192-3-27**] 04:24 AM
   Arterial Line - [**2192-3-27**] 04:31 AM
   18 Gauge - [**2192-3-29**] 11:59 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 4052**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize.
   67 yo women with severe COPD, admitted with respiratory failure, PNA,
   and sepsis.  Continue high oxygen requirement and on high Peep.
   Exam notable for diminished BS b/l.  Reg heart.  Soft abdomen.  1+
   edema
   WBC 25.7
   A/P
   Respiratory failure:  slow improvement.  Wean Peep as tolerated.
   PNA:  continue abtx.
   COPD:  wean steroids.
   Fluid overload: continue diuresis.
   CC 35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) **], MD
   on:[**2192-4-3**] 15:46 ------

2192-04-04 10:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -negative 1.4 liters at noon, lasix drip decreased to 8mg/hr
   -PEEP decreased from 16 to 14
   -ultrasound w/ minimal effusions
   -antibiotics discontinued and prednisone weaned to 30mg daily (from
   40mg daily)
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2192-4-2**] 08:39 AM
   Vancomycin - [**2192-4-3**] 08:43 AM
   Cefipime - [**2192-4-3**] 10:01 AM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-4-4**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2192-4-4**] 09:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-4-4**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.8
   HR: 76 (60 - 79) bpm
   BP: 101/53(67) {91/48(63) - 108/75(83)} mmHg
   RR: 21 (16 - 22) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.4 kg (admission): 100.9 kg
   Height: 67 Inch
             Total In:
                                                                  2,898 mL
                                                                    954 mL
   PO:
             TF:
                                                                  1,168 mL
                                                                    369 mL
   IVF:
                                                                  1,050 mL
                                                                    305 mL
   Blood products:
   Total out:
                                                                  4,550 mL
                                                                  1,330 mL
   Urine:
                                                                  4,450 mL
                                                                  1,330 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                 -1,652 mL
                                                                   -376 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   Plateau: 17 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 91%
   ABG: 7.43/68/57/49/16
   Ve: 7.8 L/min
   PaO2 / FiO2: 114
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   432 K/uL
   9.2 g/dL
   107 mg/dL
   0.8 mg/dL
   49 mEq/L
   3.9 mEq/L
   55 mg/dL
   91 mEq/L
   143 mEq/L
   29.3 %
   21.5 K/uL
        [image002.jpg]
                             [**2192-4-2**]  04:16 AM
                             [**2192-4-2**]  04:22 AM
                             [**2192-4-2**]  05:09 PM
                             [**2192-4-2**]  05:22 PM
                             [**2192-4-2**]  10:16 PM
                             [**2192-4-3**]  03:59 AM
                             [**2192-4-3**]  04:03 AM
                             [**2192-4-4**]  12:58 AM
                             [**2192-4-4**]  03:59 AM
                             [**2192-4-4**]  10:04 AM
   WBC
   24.5
   24.7
   21.5
   Hct
   30.5
   29.6
   29.3
   Plt
   [**Telephone/Fax (3) 11893**]
   Cr
   0.8
   0.9
   0.9
   0.8
   TCO2
   43
   48
   48
   47
   49
   47
   Glucose
   132
   185
   114
   107
   Other labs: PT / PTT / INR:12.5/23.7/1.1, ALT / AST:29/13, Alk Phos / T
   Bili:103/0.2, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:3.0 g/dL,
   Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, CHRONIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   A 67 yo woman with a history of very severe COPD with PNA/ARDS,
   continues to be intubated/sedated.
   #  Respiratory failure: Day 8 of intubation today for multilobar
   pneumonia & COPD c/b ARDS.   Difficult to oxygenate without high
   PEEP/FIO2.  Requiring high PEEP and PSV.   Still significantly positive
   for the stay- LOS 4.5 liters.  She does have RLL effusion that may be
   contributing.
   - bedside ultrasound today to evaluate for effusion that might be
   [**Last Name (un) **]-able (although this would be risky given high pressure)
   - Continue lasix gtt, plan for goal I/O negative 1 liter-2liter
   - PM lytes
   - continue diamox
   - taper prednisone to 30mg daily today
   .
   # PNA:  sputum cx unrevealing so far. GPC from [**3-27**] sputum most likely
   coag-neg Stap. Legionella (-) in sputum, other cx negative.
   - continue vancomycin, cefepime, d/c azithromycin for 8-day course to
   end [**4-3**]
   - change IV meds to PO if possible
   .
   # Alkalosis:  secondary to aggressive diuresis
   - continue acetazolamide
   .
   #. Shock:  Resolved. No longer needs pressor.
   - Abx as above
   # Kidney injury:  improved with signficant fluid hydration, Cr now 0.9
   #  Hx of hypertension:  recently hypotensive on pressors. BP now
   normotensive.
   - hold all antihypertensives
   # FEN: IVF boluses / replete lytes prn / tube feeds (will concentrate
   to assist with tube feeds)
   # PPX: PPI per home regimen, heparin SQ, bowel regimen, VAP Care
   # ACCESS: RIJ, L radial Art line, PIV x 1
   # CODE:  Full, discussed with patient
   # CONTACT:  with patient.  Emergency contact is sister, [**Name (NI) 3137**]
   [**Name (NI) 4537**], number in chart
   # ICU CONSENT: signed, in chart
   # DISPOSITION:  ICU
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2192-4-4**] 08:20 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-3-27**] 04:24 AM
   Arterial Line - [**2192-3-27**] 04:31 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-04-04 10:45:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67 yo w/ prior smoker w/ severe COPD on home O2 admitted w/ resp
   failure due to pneumonia and COPD exacerbation.
   24 Hour Events:
                   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2192-4-2**] 08:39 AM
   Vancomycin - [**2192-4-3**] 08:43 AM
   Cefipime - [**2192-4-3**] 10:01 AM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-4-4**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2192-4-4**] 09:03 AM
   Other medications:
   Atrovent, Peridex, RISS, Albuterol prn, Narcan PO, Flovent, Lasix gtt,
   Diamox, Prednisone 30 qd
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-4-4**] 10:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.8
   HR: 76 (60 - 79) bpm
   BP: 101/53(67) {91/48(63) - 108/75(83)} mmHg
   RR: 21 (16 - 22) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.4 kg (admission): 100.9 kg
   Height: 67 Inch
             Total In:
                                                                  2,898 mL
                                                                    953 mL
   PO:
             TF:
                                                                  1,168 mL
                                                                    369 mL
   IVF:
                                                                  1,050 mL
                                                                    304 mL
   Blood products:
   Total out:
                                                                  4,550 mL
                                                                  1,330 mL
   Urine:
                                                                  4,450 mL
                                                                  1,330 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                 -1,652 mL
                                                                   -377 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 16 cmH2O
   Plateau: 17 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 91%
   ABG: 7.43/68/57/49/16
   Ve: 7.8 L/min
   PaO2 / FiO2: 114
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   432 K/uL
   107 mg/dL
   0.8 mg/dL
   49 mEq/L
   3.9 mEq/L
   55 mg/dL
   91 mEq/L
   143 mEq/L
   29.3 %
   21.5 K/uL
        [image002.jpg]
                             [**2192-4-2**]  04:16 AM
                             [**2192-4-2**]  04:22 AM
                             [**2192-4-2**]  05:09 PM
                             [**2192-4-2**]  05:22 PM
                             [**2192-4-2**]  10:16 PM
                             [**2192-4-3**]  03:59 AM
                             [**2192-4-3**]  04:03 AM
                             [**2192-4-4**]  12:58 AM
                             [**2192-4-4**]  03:59 AM
                             [**2192-4-4**]  10:04 AM
   WBC
   24.5
   24.7
   21.5
   Hct
   30.5
   29.6
   29.3
   Plt
   [**Telephone/Fax (3) 11893**]
   Cr
   0.8
   0.9
   0.9
   0.8
   TCO2
   43
   48
   48
   47
   49
   47
   Glucose
   132
   185
   114
   107
   Other labs: PT / PTT / INR:12.5/23.7/1.1, ALT / AST:29/13, Alk Phos / T
   Bili:103/0.2, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:3.0 g/dL,
   Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:4.0 mg/dL
   Imaging: CXR- no sig change, bibasilr dz
   Microbiology: [**3-27**] Sputum- GPCs, yeast
   Assessment and Plan
   67 yo w/ prior smoker w/ severe COPD on home O2 admitted w/ resp
   failure due to pneumonia and COPD exacerbation.
    1. Resp failure- severe COPD exac due to pneumonia w/ ARDS.
   -will have asymmetric lung physiology as L lung is emphysematous and R
   lung is infected, so will need to be cautious of L lung volu- and
   [**Doctor Last Name **]-trauma
   -cont ARDSnet ventilation --> A/CV w/ 6cc/kg Vt and permissive
   hypercapnia, tolerating pH down to 7.20
   -wean FiO2 and PEEP to maintain PaO2 > 60
   -cont aggressive diuresis w/ goal -1-2L neg today; will check pm lytes.
   increase azetazolamide to help w/ HCO3 wasting in the setting of
   contraction alkalosis
   -will concentrate IVF and tube feeds
   -off ABX yesterday
   -steroids weaning to 20 qd tomorrow
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2192-4-4**] 08:20 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Multi Lumen - [**2192-3-27**] 04:24 AM
   Arterial Line - [**2192-3-27**] 04:31 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 4052**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize.
   67 yo women with severe COPD, PNA, respiratory failure.  Slow weaning
   of PEEP  - was down to 10 last night and then back up to 12.
   Exam:  clear lungs:  patient arousable.  CV: reg.  Abd; Soft, ext trace
   edema.
   A/P.
   Respiratory failue:  COPD, PNA.  Wean Peep, steroids, continue
   antibiotics.
   [**Month (only) 8**] need trach at some point.
   Contineu diuresis, diamox for alkalosis.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) **], MD
   on:[**2192-4-4**] 13:57 ------
   CC:  30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) **], MD
   on:[**2192-4-4**] 13:57 ------

2192-04-05 05:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2192-4-5**] 04:18 AM
   -decreasing PEEP down to 10, PaO2 OK but CO2 rising-->increased rate
   but gas not improved-->going back up on PEEP
   -BP borderline, 1.5 L negative but had to go down on the lasix gtt
   because of borderline BP
   -lost arterial line
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2192-4-2**] 08:39 AM
   Vancomycin - [**2192-4-3**] 08:43 AM
   Cefipime - [**2192-4-3**] 10:01 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-4-4**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2192-4-5**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-4-5**] 05:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.8
   HR: 71 (60 - 79) bpm
   BP: 90/42(54) {90/42(54) - 90/42(54)} mmHg
   RR: 18 (17 - 22) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.4 kg (admission): 100.9 kg
   Height: 67 Inch
             Total In:
                                                                  2,325 mL
                                                                    313 mL
   PO:
             TF:
                                                                    840 mL
                                                                    189 mL
   IVF:
                                                                    865 mL
                                                                    124 mL
   Blood products:
   Total out:
                                                                  3,620 mL
                                                                    800 mL
   Urine:
                                                                  3,620 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,295 mL
                                                                   -487 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 20 cmH2O
   Plateau: 11 cmH2O
   Compliance: 350 cmH2O/mL
   SpO2: 97%
   ABG: 7.40/73.[**Numeric Identifier 252**]/105/45/16
   Ve: 6.9 L/min
   PaO2 / FiO2: 210
   Physical Examination
   GEN: intubated, sedated, but easily arousable and following commands
   HEENT:JVP not elevated
   CHEST:  very poor air movement, expiratory wheezes diffusely
   CARDIAC: difficult to auscultate under breath sounds, distant, regular,
   no murmurs audible
   ABDOMEN: scar R of umbilicus well-healed, obese, soft, nontender;
   prominent bowel sounds
   EXTREMITIES: trace bilaterally pitting edema, improving
   Labs / Radiology
   478 K/uL
   9.7 g/dL
   115 mg/dL
   0.9 mg/dL
   45 mEq/L
   5.1 mEq/L
   61 mg/dL
   95 mEq/L
   143 mEq/L
   31.0 %
   21.0 K/uL
        [image002.jpg]
                             [**2192-4-3**]  03:59 AM
                             [**2192-4-3**]  04:03 AM
                             [**2192-4-4**]  12:58 AM
                             [**2192-4-4**]  03:59 AM
                             [**2192-4-4**]  10:04 AM
                             [**2192-4-4**]  12:37 PM
                             [**2192-4-4**]  02:56 PM
                             [**2192-4-4**]  11:01 PM
                             [**2192-4-5**]  02:46 AM
                             [**2192-4-5**]  03:07 AM
   WBC
   24.7
   21.5
   21.0
   Hct
   29.6
   29.3
   31.0
   Plt
   [**Telephone/Fax (3) 11901**]
   Cr
   0.9
   0.8
   0.9
   TCO2
   47
   49
   47
   41
   46
   46
   47
   Glucose
   114
   107
   137
   115
   Other labs: PT / PTT / INR:12.5/23.7/1.1, ALT / AST:29/13, Alk Phos / T
   Bili:103/0.2, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:3.0 g/dL,
   Ca++:9.3 mg/dL, Mg++:2.5 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, CHRONIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   A 67 yo woman with a history of very severe COPD with PNA/ARDS,
   continues to be intubated/sedated.
   #  Respiratory failure: Day 9 of intubation today for multilobar
   pneumonia & COPD c/b ARDS.  Difficult to oxygenate without high
   PEEP/FIO2. I/O neg 1.6 L yesterday on furosemide gtt. Bedside u/s
   showed no tappable effusion.
   - continue lasix gtt, plan for goal I/O negative 1 liter-2liter
   - PM lytes
   - continue acetazolamide
   - continue prednisone to 30mg daily for 2 more days
   .
   # PNA: sputum cx unrevealing so far. GPC from [**3-27**] sputum still not
   speciated. Legionella (-) in sputum, other cx negative.
   - continue vancomycin, cefepime; azithromycin for 8-day course to end
   [**4-3**]
   .
   # Alkalosis:  secondary to aggressive diuresis
   - continue acetazolamide as above
   .
   #  Hx of hypertension:  now normotensive.
   - hold all antihypertensives
   # FEN: IVF boluses / replete lytes prn / tube feeds (will concentrate
   to assist with tube feeds)
   # PPX: PPI per home regimen, heparin SQ, bowel regimen, VAP Care
   # ACCESS: RIJ, L radial Art line, PIV x 1
   # CODE:  Full, discussed with patient
   # CONTACT:  with patient.  Emergency contact is sister, [**Name (NI) 3137**]
   [**Name (NI) 4537**], number in chart
   # ICU CONSENT: signed, in chart
   # DISPOSITION:  ICU
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2192-4-4**] 10:30 PM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-3-27**] 04:24 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-04-05 10:46:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   67 yo w/ prior smoker w/ severe COPD on home O2 admitted w/ resp
   failure due to pneumonia and COPD exacerbation.
   24 Hour Events:
   a line out this am.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2192-4-3**] 08:43 AM
   Cefipime - [**2192-4-3**] 10:01 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-4-5**] 08:01 AM
   Other medications:
   Atrovent, Pantoprazole, Peridex, RISS, PO Narcan, Diamox 500 q6
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-4-5**] 10:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.6
C (97.8
   HR: 69 (62 - 79) bpm
   BP: 88/50(60) {86/42(54) - 100/57(67)} mmHg
   RR: 19 (17 - 22) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.4 kg (admission): 100.9 kg
   Height: 67 Inch
             Total In:
                                                                  2,326 mL
                                                                    830 mL
   PO:
             TF:
                                                                    841 mL
                                                                    362 mL
   IVF:
                                                                    865 mL
                                                                    218 mL
   Blood products:
   Total out:
                                                                  3,620 mL
                                                                  1,400 mL
   Urine:
                                                                  3,620 mL
                                                                  1,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,294 mL
                                                                   -570 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   Compliance: 47.3 cmH2O/mL
   SpO2: 92%
   Ve: 6.2 L/min
   PaO2 / FiO2: 156
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : ant, No(t) Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   478 K/uL
   115 mg/dL
   0.9 mg/dL
   45 mEq/L
   5.1 mEq/L
   61 mg/dL
   95 mEq/L
   143 mEq/L
   31.0 %
   21.0 K/uL
        [image002.jpg]
                             [**2192-4-3**]  04:03 AM
                             [**2192-4-4**]  12:58 AM
                             [**2192-4-4**]  03:59 AM
                             [**2192-4-4**]  10:04 AM
                             [**2192-4-4**]  12:37 PM
                             [**2192-4-4**]  02:56 PM
                             [**2192-4-4**]  11:01 PM
                             [**2192-4-5**]  02:46 AM
                             [**2192-4-5**]  03:07 AM
                             [**2192-4-5**]  05:31 AM
   WBC
   21.5
   21.0
   Hct
   29.3
   31.0
   Plt
   432
   478
   Cr
   0.8
   0.9
   TCO2
   47
   49
   47
   41
   46
   46
   47
   48
   Glucose
   107
   137
   115
   Other labs: PT / PTT / INR:12.5/23.7/1.1, ALT / AST:29/13, Alk Phos / T
   Bili:103/0.2, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:3.0 g/dL,
   Ca++:9.3 mg/dL, Mg++:2.5 mg/dL, PO4:3.7 mg/dL
   Imaging: CXR- decreased effusions
   Microbiology: Sputum [**3-27**]- yeast
   All blood cx neg to date
   Assessment and Plan
   67 yo w/ prior smoker w/ severe COPD on home O2 admitted w/ resp
   failure due to pneumonia and COPD exacerbation.
    1. Resp failure- severe COPD exac due to pneumonia w/ ARDS. Slow and
   steady decrease in PEEP req't.
   -will have asymmetric lung physiology as L lung is emphysematous and R
   lung is infected, so will need to be cautious of L lung volu- and
   [**Doctor Last Name **]-trauma
   -cont ARDSnet ventilation --> A/CV w/ 6cc/kg Vt and permissive
   hypercapnia, tolerating pH down to 7.20
   -wean FiO2 and PEEP to maintain PaO2 > 60
   -day 10 intubation at this point, if PEEP <8 tomorrow will assess for
   spont breathing
   -cont aggressive diuresis w/ goal -1-2L neg today; will check pm lytes.
   increase azetazolamide to help w/ HCO3 wasting in the setting of
   contraction alkalosis
   -will concentrate IVF and tube feeds
   -steroids weaning to 20 qd tomorrow
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2192-4-5**] 05:33 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-3-27**] 04:24 AM
   Comments: attempt to replace aline
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 4052**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize.
   67 yo women with severe PNA, COPD, and respiratory failure.  Slowly
   weaning down on Peep.
   Exam:  patient arousable, moves all extremities.  Lungs diminished BS
   CV: reg  Abd: soft
   A/P
   - Respiratory failure:  will with significant Peep requirement.
   Continue diuresis and weaning of the Peep.
   - Has completed antibiotics course.  Continue to wean steroids.
   - Consider changing out central like to a PIC.
   CC 30 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) **], MD
   on:[**2192-4-5**] 16:29 ------

2192-04-06 07:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2192-4-5**] 02:41 PM
   - a-line re-inserted
   - PEEP down to 8
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2192-4-3**] 08:43 AM
   Cefipime - [**2192-4-3**] 10:01 AM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Furosemide (Lasix) - 6 mg/hour
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-4-6**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-4-6**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.8
   HR: 75 (66 - 80) bpm
   BP: 98/54(69) {91/47(61) - 123/67(87)} mmHg
   RR: 20 (18 - 23) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.4 kg (admission): 100.9 kg
   Height: 67 Inch
             Total In:
                                                                  2,909 mL
                                                                    829 mL
   PO:
             TF:
                                                                  2,069 mL
                                                                    553 mL
   IVF:
                                                                    530 mL
                                                                    216 mL
   Blood products:
   Total out:
                                                                  2,800 mL
                                                                  1,280 mL
   Urine:
                                                                  2,800 mL
                                                                  1,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    109 mL
                                                                   -451 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 26 cmH2O
   Plateau: 19 cmH2O
   Compliance: 38.9 cmH2O/mL
   SpO2: 91%
   ABG: 7.37/69/85.[**Numeric Identifier 299**]/39/10
   Ve: 7.1 L/min
   PaO2 / FiO2: 170
   Physical Examination
   GEN: intubated, sedated, but easily arousable and following commands
   HEENT:JVP not elevated
   CHEST:  very poor air movement, expiratory wheezes diffusely
   CARDIAC: difficult to auscultate under breath sounds, distant, regular,
   no murmurs audible
   ABDOMEN: scar R of umbilicus well-healed, obese, soft, nontender;
   prominent bowel sounds
   EXTREMITIES: no edema, no sacral edema
   Labs / Radiology
   425 K/uL
   9.5 g/dL
   112 mg/dL
   0.8 mg/dL
   39 mEq/L
   4.7 mEq/L
   63 mg/dL
   98 mEq/L
   145 mEq/L
   30.2 %
   19.9 K/uL
        [image002.jpg]
                             [**2192-4-4**]  11:01 PM
                             [**2192-4-5**]  02:46 AM
                             [**2192-4-5**]  03:07 AM
                             [**2192-4-5**]  05:31 AM
                             [**2192-4-5**]  03:41 PM
                             [**2192-4-5**]  08:24 PM
                             [**2192-4-6**]  03:24 AM
                             [**2192-4-6**]  03:40 AM
                             [**2192-4-6**]  05:03 AM
                             [**2192-4-6**]  06:16 AM
   WBC
   21.0
   19.9
   Hct
   31.0
   30.2
   Plt
   478
   425
   Cr
   0.9
   1.0
   0.8
   TCO2
   46
   47
   48
   44
   43
   42
   41
   Glucose
   115
   136
   112
   Other labs: PT / PTT / INR:12.5/23.7/1.1, ALT / AST:29/13, Alk Phos / T
   Bili:103/0.2, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:3.0 g/dL,
   Ca++:9.6 mg/dL, Mg++:2.6 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, CHRONIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   A 67 yo woman with a history of very severe COPD with PNA/[**Year (4 digits) **],
   continues to be intubated/sedated.
   #  Respiratory failure: Day 10 of intubation today for multilobar
   pneumonia & COPD c/b [**Year (4 digits) **].  Difficult to oxygenate without high
   PEEP/FIO2. I/O neg 1.3 L [**4-4**] on furosemide gtt. Bedside u/s showed no
   tappable effusion.   Attempt to diurese 1-2 liters again today and plan
   on weaning PEEP as tolerated.
   - continue lasix gtt, plan for goal I/O negative 1 liter-2liter
   - PM lytes
   - continue acetazolamide
   - continue prednisone to 30mg daily for 2 more days
   -attempt A line replacement
   -[**Last Name **] problem is [**Name2 (NI) **], PNA has been treated fully, monitor temp and
   WBC
   .
   # Alkalosis:  secondary to aggressive diuresis
   - continue acetazolamide as above
   .
   #  Hx of hypertension:  now normotensive.
   - hold all antihypertensives
   # FEN: IVF boluses / replete lytes prn / tube feeds (will concentrate
   to assist with tube feeds)
   # PPX: PPI per home regimen, heparin SQ, bowel regimen, VAP Care
   # ACCESS: RIJ
   # CODE:  Full, discussed with patient
   # CONTACT:  with patient.  Emergency contact is sister, [**Name (NI) 3137**]
   [**Name (NI) 4537**], number in chart
   # ICU CONSENT: signed, in chart
   # DISPOSITION:  ICU
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2192-4-6**] 02:41 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-3-27**] 04:24 AM
   Arterial Line - [**2192-4-5**] 02:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-04-06 10:00:00 Physician Attending Progress Note
Chief Complaint: respiratory failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67 yo with respiratory failure, COPD, MRSA PNA.  Weaned down to PEEP of
   8
   24 Hour Events:
 ARTERIAL LINE - START [**2192-4-5**] 02:41 PM
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2192-4-3**] 10:01 AM
   Infusions:
   Furosemide (Lasix) - 6 mg/hour
   Fentanyl - 200 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-4-6**] 12:00 AM
   Other medications:
   colace
   atroven
   protonix
   chlorhexi
   midax
   albuterol
   narcan
   flovent
   prednisone 30mg
   diamox
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-4-6**] 10:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.8
C (96.4
   HR: 76 (66 - 80) bpm
   BP: 89/45(60) {89/45(60) - 123/67(87)} mmHg
   RR: 20 (18 - 23) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.4 kg (admission): 100.9 kg
   Height: 67 Inch
             Total In:
                                                                  2,910 mL
                                                                    954 mL
   PO:
             TF:
                                                                  2,069 mL
                                                                    624 mL
   IVF:
                                                                    531 mL
                                                                    269 mL
   Blood products:
   Total out:
                                                                  2,800 mL
                                                                  1,720 mL
   Urine:
                                                                  2,800 mL
                                                                  1,720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    110 mL
                                                                   -766 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 23 cmH2O
   Plateau: 17 cmH2O
   Compliance: 38.9 cmH2O/mL
   SpO2: 91%
   ABG: 7.37/69/85.[**Numeric Identifier 299**]/39/10
   Ve: 6.5 L/min
   PaO2 / FiO2: 170
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present, incarcerated hernia
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   425 K/uL
   112 mg/dL
   0.8 mg/dL
   39 mEq/L
   4.7 mEq/L
   63 mg/dL
   98 mEq/L
   145 mEq/L
   30.2 %
   19.9 K/uL
        [image002.jpg]
                             [**2192-4-4**]  11:01 PM
                             [**2192-4-5**]  02:46 AM
                             [**2192-4-5**]  03:07 AM
                             [**2192-4-5**]  05:31 AM
                             [**2192-4-5**]  03:41 PM
                             [**2192-4-5**]  08:24 PM
                             [**2192-4-6**]  03:24 AM
                             [**2192-4-6**]  03:40 AM
                             [**2192-4-6**]  05:03 AM
                             [**2192-4-6**]  06:16 AM
   WBC
   21.0
   19.9
   Hct
   31.0
   30.2
   Plt
   478
   425
   Cr
   0.9
   1.0
   0.8
   TCO2
   46
   47
   48
   44
   43
   42
   41
   Glucose
   115
   136
   112
   Other labs: PT / PTT / INR:12.5/23.7/1.1, ALT / AST:29/13, Alk Phos / T
   Bili:103/0.2, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:3.0 g/dL,
   Ca++:9.6 mg/dL, Mg++:2.6 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   Respiratory failure:  Doing better.  Looks good on PSV.  Prednisone
   taper.
   Agitation:  Wean drips today.  Use boluses as needed.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2192-4-6**] 02:41 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-3-27**] 04:24 AM
   Arterial Line - [**2192-4-5**] 02:41 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2192-04-07 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Lasix shut off for hypotension briefly, restarted at 3mg / hr,
   diuesing well
   - PEEP titrated down to 5
   - tube feeds to stop at 4 a.m. in case of extubation in a.m.
   - as fentanyl is being weaned have weaned PO naloxone to 1mg po qid
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-4-7**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 79 (72 - 82) bpm
   BP: 129/67(88) {89/45(60) - 143/76(100)} mmHg
   RR: 19 (17 - 28) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.4 kg (admission): 100.9 kg
   Height: 67 Inch
             Total In:
                                                                  1,851 mL
                                                                    262 mL
   PO:
             TF:
                                                                  1,137 mL
                                                                    140 mL
   IVF:
                                                                    574 mL
                                                                    121 mL
   Blood products:
   Total out:
                                                                  3,840 mL
                                                                    680 mL
   Urine:
                                                                  3,840 mL
                                                                    680 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,989 mL
                                                                   -418 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 356 (320 - 424) mL
   PS : 8 cmH2O
   RR (Set): 20
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 97
   PIP: 14 cmH2O
   Plateau: 17 cmH2O
   Compliance: 38.9 cmH2O/mL
   SpO2: 90%
   ABG: 7.39/63/73.[**Numeric Identifier 252**]/38/9
   NIF: -30 cmH2O
   Ve: 8.8 L/min
   PaO2 / FiO2: 146
   Physical Examination
   GEN: intubated, sedated, but easily arousable and following commands
   HEENT:JVP not elevated
   CHEST:  very poor air movement, expiratory wheezes diffusely
   CARDIAC: difficult to auscultate under breath sounds, distant, regular,
   no murmurs audible
   ABDOMEN: scar R of umbilicus well-healed, obese, soft, nontender;
   prominent bowel sounds
   EXTREMITIES: no edema, no sacral edema
   Labs / Radiology
   435 K/uL
   10.0 g/dL
   93 mg/dL
   0.8 mg/dL
   38 mEq/L
   4.4 mEq/L
   63 mg/dL
   101 mEq/L
   148 mEq/L
   31.3 %
   20.8 K/uL
        [image002.jpg]
                             [**2192-4-5**]  03:41 PM
                             [**2192-4-5**]  08:24 PM
                             [**2192-4-6**]  03:24 AM
                             [**2192-4-6**]  03:40 AM
                             [**2192-4-6**]  05:03 AM
                             [**2192-4-6**]  06:16 AM
                             [**2192-4-6**]  06:02 PM
                             [**2192-4-6**]  06:17 PM
                             [**2192-4-6**]  09:10 PM
                             [**2192-4-7**]  05:51 AM
   WBC
   19.9
   20.8
   Hct
   30.2
   31.3
   Plt
   425
   435
   Cr
   1.0
   0.8
   0.8
   0.8
   TCO2
   44
   43
   42
   41
   42
   40
   Glucose
   136
   112
   143
   93
   Other labs: PT / PTT / INR:10.8/28.4/0.9, ALT / AST:29/13, Alk Phos / T
   Bili:103/0.2, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:3.0 g/dL,
   Ca++:10.0 mg/dL, Mg++:2.7 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, CHRONIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   A 67 yo woman with a history of very severe COPD with PNA/ARDS,
   continues to be intubated/sedated.
   #  Respiratory failure: Day 11 of intubation today for multilobar
   pneumonia & COPD c/b ARDS. Able to wean PEEP down to 5.  Currently on
   PSV 8/5.  Diuresed 2 liters negative yesterday and continues to be
   somewhat negative today.  Fully treated for PNA, currently with ARDS.
   -SBT
   -possibly attempt to extubate today or tomorrow, if fails will need
   trach
   - continue acetazolamide
   - continue 30mg prednisone today, decrease to 20mg daily on [**4-8**]
   -d/c po narcan
   # Alkalosis:  secondary to aggressive diuresis
   - continue acetazolamide as above
   #  Hx of hypertension:  now normotensive.
   - hold all antihypertensives
   # FEN: IVF boluses / replete lytes prn / tube feeds (will concentrate
   to assist with tube feeds)
   # PPX: PPI per home regimen, heparin SQ, bowel regimen, VAP Care
   # ACCESS: RIJ
   # CODE:  Full
   # CONTACT:  with patient.  Emergency contact is sister, [**Name (NI) 3137**]
   [**Name (NI) 4537**], number in chart
   # ICU CONSENT: signed, in chart
   # DISPOSITION:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-3-27**] 04:24 AM
   Arterial Line - [**2192-4-5**] 02:41 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-04-08 08:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - extubated to bipap - 7.43/58/61 after ~1 hour on [**12-30**]%
   - bipap off for 6 hours - pt stated uncomfortable although O2 Sat OK
   and RR 15 (ABG 7.43/53/108, same as on bipap and as when intubated) -
   back to bipap for a bit just for her comfort but quickly back to face
   tent.
   - lasix gtt @ 3, making ~150cc/h urine
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 3 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2192-4-8**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-4-8**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 89 (73 - 89) bpm
   BP: 160/88(113) {109/66(84) - 178/96(128)} mmHg
   RR: 16 (16 - 31) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.1 kg (admission): 100.9 kg
   Height: 67 Inch
             Total In:
                                                                  1,130 mL
                                                                    155 mL
   PO:
                                                                    350 mL
                                                                     50 mL
   TF:
                                                                    140 mL
   IVF:
                                                                    340 mL
                                                                    105 mL
   Blood products:
   Total out:
                                                                  3,065 mL
                                                                    400 mL
   Urine:
                                                                  3,065 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,935 mL
                                                                   -245 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 400 (400 - 540) mL
   PS : 12 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 80%
   PIP: 18 cmH2O
   SpO2: 93%
   ABG: 7.44/61/147/37/14
   Ve: 9.6 L/min
   PaO2 / FiO2: 294
   Physical Examination
   GEN: intubated, sedated, but easily arousable and following commands
   HEENT:JVP not elevated
   CHEST:  very poor air movement, expiratory wheezes diffusely
   CARDIAC: difficult to auscultate under breath sounds, distant, regular,
   no murmurs audible
   ABDOMEN: scar R of umbilicus well-healed, obese, soft, nontender;
   prominent bowel sounds
   EXTREMITIES: no edema, no sacral edema
   Labs / Radiology
   465 K/uL
   10.7 g/dL
   93 mg/dL
   0.9 mg/dL
   37 mEq/L
   4.1 mEq/L
   58 mg/dL
   100 mEq/L
   148 mEq/L
   32.9 %
   22.7 K/uL
        [image002.jpg]
                             [**2192-4-6**]  06:02 PM
                             [**2192-4-6**]  06:17 PM
                             [**2192-4-6**]  09:10 PM
                             [**2192-4-7**]  05:51 AM
                             [**2192-4-7**]  10:27 AM
                             [**2192-4-7**]  03:35 PM
                             [**2192-4-7**]  05:23 PM
                             [**2192-4-7**]  09:19 PM
                             [**2192-4-8**]  04:59 AM
                             [**2192-4-8**]  05:21 AM
   WBC
   20.8
   22.7
   Hct
   31.3
   32.9
   Plt
   435
   465
   Cr
   0.8
   0.8
   0.9
   0.9
   TCO2
   42
   40
   40
   38
   39
   43
   Glucose
   143
   93
   121
   93
   Other labs: PT / PTT / INR:10.8/28.4/0.9, ALT / AST:29/13, Alk Phos / T
   Bili:103/0.2, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:3.0 g/dL,
   Ca++:10.6 mg/dL, Mg++:2.5 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
 HYPERNATREMIA (HIGH SODIUM)
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, CHRONIC
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   A 67 yo woman with a history of very severe COPD with PNA/ARDS,
   continues to be intubated/sedated.
   #  Respiratory failure: Day 11 of intubation today for multilobar
   pneumonia & COPD c/b ARDS. Able to wean PEEP down to 5.  Currently on
   PSV 8/5.  Diuresed 2 liters negative yesterday and continues to be
   somewhat negative today.  Fully treated for PNA, currently with ARDS.
   -SBT
   -possibly attempt to extubate today or tomorrow, if fails will need
   trach
   - continue acetazolamide
   - continue 30mg prednisone today, decrease to 20mg daily on [**4-8**]
   -d/c po narcan
   # Alkalosis:  secondary to aggressive diuresis
   - continue acetazolamide as above
   #  Hx of hypertension:  now normotensive.
   - hold all antihypertensives
   # FEN: IVF boluses / replete lytes prn / tube feeds (will concentrate
   to assist with tube feeds)
   # PPX: PPI per home regimen, heparin SQ, bowel regimen, VAP Care
   # ACCESS: RIJ
   # CODE:  Full
   # CONTACT:  with patient.  Emergency contact is sister, [**Name (NI) 3137**]
   [**Name (NI) 4537**], number in chart
   # ICU CONSENT: signed, in chart
   # DISPOSITION:  ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2192-3-27**] 04:24 AM
   Arterial Line - [**2192-4-5**] 02:41 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2192-04-10 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - decreased urine output 10cc/hr--> gave NS 125cc/hr total 1L (later
   found on that foley was leaking)
   - 95% on 4L NC
   - Central line and A-line removed, Single PIV placed
   - Na 142 on recheck
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2192-4-9**] 08:22 AM
   Heparin Sodium (Prophylaxis) - [**2192-4-10**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2192-4-10**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**94**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.3
C (97.3
   HR: 70 (59 - 99) bpm
   BP: 91/54(79) {89/50(60) - 118/77(87)} mmHg
   RR: 20 (17 - 29) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.1 kg (admission): 100.9 kg
   Height: 67 Inch
             Total In:
                                                                  2,389 mL
                                                                     77 mL
   PO:
                                                                  1,360 mL
             TF:
   IVF:
                                                                  1,029 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                    937 mL
                                                                    350 mL
   Urine:
                                                                    937 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,452 mL
                                                                   -273 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///33/
   Physical Examination
   Labs / Radiology
   415 K/uL
   9.3 g/dL
   96 mg/dL
   1.0 mg/dL
   33 mEq/L
   3.9 mEq/L
   52 mg/dL
   101 mEq/L
   141 mEq/L
   28.4 %
   16.9 K/uL
        [image002.jpg]
                             [**2192-4-7**]  05:23 PM
                             [**2192-4-7**]  09:19 PM
                             [**2192-4-8**]  04:59 AM
                             [**2192-4-8**]  05:21 AM
                             [**2192-4-8**]  09:57 AM
                             [**2192-4-8**]  12:26 PM
                             [**2192-4-8**]  12:51 PM
                             [**2192-4-8**]  05:36 PM
                             [**2192-4-9**]  04:49 AM
                             [**2192-4-10**]  03:27 AM
   WBC
   22.7
   19.2
   16.9
   Hct
   32.9
   33.4
   28.4
   Plt
   465
   446
   415
   Cr
   0.9
   0.9
   1.0
   0.9
   1.0
   TCO2
   39
   43
   39
   39
   40
   Glucose
   121
   93
   127
   90
   96
   Other labs: PT / PTT / INR:10.8/28.4/0.9, ALT / AST:29/13, Alk Phos / T
   Bili:103/0.2, Differential-Neuts:90.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:3.0 g/dL,
   Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   A 67 yo woman with a history of very severe COPD with PNA/ARDS, now
   extubated after prolonged intubation.
   .
   #  Respiratory failure:  Extubated. Resp status remains stable on 4L
   NC.
   --cont O2 to keep sats 88-92%
   --BIPAP overnight
   - continue prednisone taper
 reduce to 10mg daily today ([**4-10**]) x 3
   days then taper
   - cont albuterol,fluticasone
   - encourage incentive spirometry
   - prior to discharged should be switched to spiriva (and off of
   atrovent)
   .
   # Pneumonia: s/p course of broad-spectrum abx.
   .
   #  Hx of hypertension: BP running low normal
   -discontinue antihypertensives (only getting [**1-29**] doses of captopril due
   to low normal BPs)
   # Hypernatremia: Resolved with IVF and free water intake
   # Anemia: Hct drop 33 to 28 today ([**4-10**]).  No source of bleeding.
   Continue home PPI and trend for now.
   ICU Care
   Nutrition: HH/Diabetic
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2192-4-9**] 03:12 PM
   Prophylaxis:
   DVT: Hep SC
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now
   ------ Protected Section ------
   PHYSICAL EXAM FROM [**2192-4-10**]
   GEN: on nasal cannula, appears very comfortable.
   HEENT:JVP not elevated
   CHEST:  good air movement, no wheezes
   CARDIAC: distant, regular, no murmurs audible
   ABDOMEN: obese, soft, nontender; prominent bowel sounds
   EXTREMITIES: no edema, no sacral edema, 2+ distal pulses
   ------ Protected Section Addendum Entered By:[**Name (NI) 1314**] [**Name8 (MD) 568**], MD
   on:[**2192-4-10**] 10:42 ------
   I have seen and examined the patient with the fellow and agree
   substantially with the assessment and plan as above with the following
   modifications/emphasis:
   Overnight, no new events
   Tm:  97  P:  70     BP: 90/64    RR: 20    Oxygen Saturation:  94-5%
   on nasal cannula
   General: Awake, alert NAD
   Chest: Clear to auscultation
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Ext: warm, vendynes in place
   Labs: reviewed and as above
 WBC dropping
   Assessment:
   1)      Pneumonia
 resolving/resolved
   2)      COPD Exacerbation
 improving and oxygen saturation approaching
   baseline leves (on outpatient 2 -4 liters per nasal cannula)
   3)      Hypernatremia
 improving
   Plan:
   1)      Continue albuterol and atrovent therapy
   2)      Continue to wean prednisone
   3)      Continue wean oxygen as tolerated
   4)      Physical therapy consult but maintain limited exertion
   5)      Monitor sodium
   Addendum: Slipped of bed in the afternoon when trying to go to the
   bathroom.  Did not hit head or neck and no obvious injuries as assessed
   on bedside examination.
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2192-4-10**] 05:44 PM ------